2180-09-30 07:51:00 Physician Resident Progress Note
Chief Complaint: urosepsis
   24 Hour Events:
   Dobutamine initiated and then titrated off. Levophed weaned during
   stay.
    Patient had significant ectopy overnight.
   Creatinine improved significantly with IVF (>6L)
   A. line placed.
   INR found to be 16, so given 2.5 of vitamin K.
   febrile to 102.5 on admission.
 MULTI LUMEN - START [**2180-9-29**] 07:00 PM
 INVASIVE VENTILATION - START [**2180-9-29**] 07:00 PM
 ARTERIAL LINE - START [**2180-9-29**] 09:00 PM
 EKG - At [**2180-9-30**] 12:00 AM
 FEVER - 102.5
F - [**2180-9-29**] 07:00 PM
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Cefipime - [**2180-9-29**] 09:00 PM
   Vancomycin - [**2180-9-29**] 10:00 PM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-9-30**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 36.3
C (97.4
   HR: 89 (78 - 132) bpm
   BP: 99/58(71) {92/55(67) - 122/109(111)} mmHg
   RR: 19 (15 - 33) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  7,691 mL
                                                                  1,664 mL
   PO:
             TF:
   IVF:
                                                                  4,691 mL
                                                                  1,544 mL
   Blood products:
   Total out:
                                                                    480 mL
                                                                  1,295 mL
   Urine:
                                                                    480 mL
                                                                  1,295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,211 mL
                                                                    369 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 450) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI Deferred: Hemodynamic Instability
   PIP: 27 cmH2O
   Plateau: 17 cmH2O
   SpO2: 95%
   ABG: 7.28/32/132/13/-10
   Ve: 8.4 L/min
   PaO2 / FiO2: 377
   Physical Examination
   Gen: intubated sedate
   HEENT: right pupil dilated, sluggish, left pupil round and reactive
   CV: mechanical s2, tachycardic, no m/r/g
   Pulm: clear anteriorly
   Abd: soft, NT, ND, bowel sounds present
   Ext: warm and well perfused
   Neuro: responsive to commands
   Labs / Radiology
   149 K/uL
   11.7 g/dL
   125 mg/dL
   1.4 mg/dL
   13 mEq/L
   4.0 mEq/L
   36 mg/dL
   119 mEq/L
   144 mEq/L
   35.3 %
   14.9 K/uL
        [image002.jpg]
                             [**2180-9-29**]  07:55 PM
                             [**2180-9-29**]  10:32 PM
                             [**2180-9-30**]  01:44 AM
                             [**2180-9-30**]  01:55 AM
                             [**2180-9-30**]  05:19 AM
                             [**2180-9-30**]  05:48 AM
   WBC
   17.1
   14.9
   Hct
   34.8
   35.3
   Plt
   129
   149
   Cr
   2.2
   1.6
   1.4
   TropT
   0.06
   0.04
   TCO2
   16
   16
   16
   Glucose
   138
   161
   125
   Other labs: PT / PTT / INR:119.2/54.1/16.5, CK / CKMB /
   Troponin-T:232/5/0.04, ALT / AST:55/63, Alk Phos / T Bili:40/0.7,
   Amylase / Lipase:129/17, Differential-Neuts:90.6 %, Lymph:6.3 %,
   Mono:2.8 %, Eos:0.1 %, Fibrinogen:141 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.9 g/dL, LDH:249 IU/L, Ca++:7.4 mg/dL, Mg++:1.7 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
   A/P:  Ms. [**Known lastname 5130**] is a 61 yo female  with dilated cardiomyopathy
   (non-ischemic), s/p MVR for rheumatic heart disease, h/o subdural
   hematoma and VP shunt, admitted with urosepsis.
   .
   1. Urosepsis.  Patient presents with positive UA, fever, elevated WBC,
   and radiographic evidence of pylonephritis.   Patient was hypotensive
   requiring levophed and dobutamine, but has been weaned off dobuta and
   has titrated down levophed. Normal random cortisol level.   Patient is
   hypotensive requiring Levophed.  She was initially on Dobutamine due to
   her low EF and continued low blood pressure, but this has been weaned
   off. Random cortisol elevated so no need for steroids.
   - Levophed to maintain MAPS >65; dobutamine if necessary
   - IVF
   - f/u urine culture
   - f/u blood culture
   - cefepime/vanco for broad coverage (will need to be adjusted for renal
   fucntion)
   - check random cortisol and give steroids if low
   - monitor urine output
   .
   2.  Respiratory failure.  Patient was intubated for tachypnea and
   increased work of breathing.  CXR shows significant cardiomegaly but no
   significant pulmonary pathology.  Patient is at risk for developing
   pulmonary edema due to significant fluid boluses.  Initial blood gas
   shows combined metabaolic acidosis and respiratory alkalsosis with
   adequate oxygenation.
   - continue mechanical ventillation with goal of lowering oxygenation
   and lowering tidal volume
   - serial CXR
   - fentanyl/versed for sedation
   .
   3.  Dilated cardiomyopathy.   Patient reportedly has a non-ischemic
   dilated cardiomyopathy with most recent echo showing an EF of 10%.
   Patient also s/p mitral valve replacement due to rheuamtic fever.
   - hold lasix, aldactone, coreg given hypotension
   .
   4.  Rhythmn.  Patient having significant ectopy on telemetry,
   particularly while on dobutamine.  Patient has ICD in place.
   - monitor on telemetry
   - wean dobutamine as tolerated
   .
   5. Elevated INR.  Patient has a history of mitral valve replacement and
   A. fib so is anticoatulated with coumadin.  INR found to be elevated
   yesterday so coumadin was held and now elevated again.  Patient has
   groin line and A. line.  Will hold off on reversing her anticoagulation
   given that she has a mechanical valve and monitor her INR.
   - hold coumadin
   - follow PT, PTT, INR
   .
   6.  Non-Anion Gap Metabolic Acidosis.  Patient noted to have a
   non-anion gap metabolic acidosis on lab.  Patient initially presented
   with diarrhea, however, acidosis developed in setting of aggressive IVF
   so likely due to this..
   - follow gap
   .
   7.  ARF.  Patient noted to have Cr of 3.0 on admission with baseline Cr
   of 1.0.  Creatinine is already improving with IVF suggesting an
   pre-renal component.  No signs of hydronephrosis on catcan.
   - urine lytes
   - follow Cr
   - pressors to maintain MAPS > 65
   - hold lasix, lisinopril, aldactone
   - renally dose all antibiotics
   .
   8.  Hypothyroidism.
   - holding levothyroxine while stabilizing pateint (levothyroxine 112 4x
   weekly, 125 3x weekly)
   .
   9. Depression.
   - resume Zoloft when stable
   .
   PPI.
   Therapeutic INR.
   Communication: Husband and Daughter
   .
   FULL CODE
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2180-9-29**] 07:00 PM
   18 Gauge - [**2180-9-29**] 07:00 PM
   Arterial Line - [**2180-9-29**] 09:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2180-9-29**] 07:00 PM
   18 Gauge - [**2180-9-29**] 07:00 PM
   Arterial Line - [**2180-9-29**] 09:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2180-09-30 08:35:00 Physician Attending Progress Note
Chief Complaint: septic shock
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61 y/o F who presented with diarrhea, found to be hypotensive in septic
   shock likely from a urinary source.
   24 Hour Events:
 MULTI LUMEN - START [**2180-9-29**] 07:00 PM
 INVASIVE VENTILATION - START [**2180-9-29**] 07:00 PM
 ARTERIAL LINE - START [**2180-9-29**] 09:00 PM
 EKG - At [**2180-9-30**] 12:00 AM
 FEVER - 102.5
F - [**2180-9-29**] 07:00 PM
   Overnight: Received 8 L IVF.  Levophed titrated down, dobutamine
   titrated off.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Cefipime - [**2180-9-29**] 09:00 PM
   Vancomycin - [**2180-9-29**] 10:00 PM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Other medications:
   aspirin 325 mg daily, peridex, lansoprazole
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: Diarrhea
   Flowsheet Data as of  [**2180-9-30**] 08:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 36.3
C (97.4
   HR: 89 (78 - 132) bpm
   BP: 99/58(71) {92/55(67) - 122/109(111)} mmHg
   RR: 19 (15 - 33) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  7,691 mL
                                                                  1,709 mL
   PO:
             TF:
   IVF:
                                                                  4,691 mL
                                                                  1,589 mL
   Blood products:
   Total out:
                                                                    480 mL
                                                                  1,295 mL
   Urine:
                                                                    480 mL
                                                                  1,295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,211 mL
                                                                    414 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 450) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI Deferred: Hemodynamic Instability
   PIP: 24 cmH2O
   Plateau: 17 cmH2O
   SpO2: 95%
   ABG: 7.28/32/132/13/-10
   Ve: 7.8 L/min
   PaO2 / FiO2: 377
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: R pupil dilated (baseline)
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), mechanical S2, no murmur
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: at L base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, R groin with minimal
   hematoma, no bruit
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.7 g/dL
   149 K/uL
   125 mg/dL
   1.4 mg/dL
   13 mEq/L
   4.0 mEq/L
   36 mg/dL
   119 mEq/L
   144 mEq/L
   35.3 %
   14.9 K/uL
        [image002.jpg]
                             [**2180-9-29**]  07:55 PM
                             [**2180-9-29**]  10:32 PM
                             [**2180-9-30**]  01:44 AM
                             [**2180-9-30**]  01:55 AM
                             [**2180-9-30**]  05:19 AM
                             [**2180-9-30**]  05:48 AM
   WBC
   17.1
   14.9
   Hct
   34.8
   35.3
   Plt
   129
   149
   Cr
   2.2
   1.6
   1.4
   TropT
   0.06
   0.04
   TCO2
   16
   16
   16
   Glucose
   138
   161
   125
   Other labs: PT / PTT / INR:119.2/54.1/16.5, CK / CKMB /
   Troponin-T:232/5/0.04, ALT / AST:55/63, Alk Phos / T Bili:40/0.7,
   Amylase / Lipase:129/17, Differential-Neuts:90.6 %, Lymph:6.3 %,
   Mono:2.8 %, Eos:0.1 %, Fibrinogen:141 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.9 g/dL, LDH:249 IU/L, Ca++:7.4 mg/dL, Mg++:1.7 mg/dL, PO4:3.2
   mg/dL
   Fluid analysis / Other labs: cortisol 55
   Imaging: CXR: unchanged cardiomegaly, new small bilateral pleural
   effusions, increased interstitial markings at the bases
   Microbiology: Blood, urine cx pending
   Assessment and Plan
   61 yo female who presented with diarrhea, found to be hypotensive in
   PCP's office and with signs of sepsis on arrival to ED.  Improved
   significantly overnight and has weaned off dobutamine, down on
   levophed.
   Shock:  Fever and source of infection suggest that primary insult was
   sepsis although last night skin was very cold, suggesting a component
   of cardiogenic shock as well.  Now is warm, looks better, excellent UOP
   overnight.
   -Vanco/Cefepime.  Check vanc level, will need to readjust antibiotic
   dosing given improvement in renal function.
   -wean levophed as tolerated.  She may need neosynephrine or vasopressin
   if there is sustained ectopy.
   Bolus 500 LR now, see if this can decrease levo requirement
   - cortisol was 55, no role for steroids given rapid weaning of pressors
   and appropriate adrenal response
   Respiratory Failure-
   -ABG suggests metabolic acidosis with respiratory alkalosis.  Acidosis
   likely due to normal saline given over past 12 hours.
   -Oxygenating well despite 8L IVF and EF 10%; will continue to follow.
   Acute Renal Failure-Likely pre-renal source with hypotension and poor
   perfusion.  Improved overnight with IVF.
   Coronary Artery Disease-
   -Continue ASA/Statin
   Coagulopathy:  Likely secondary to DIC - will check DIC labs.
   Nutritional deficiency unlikely given recent onset of illness.  LFTs
   only mildly bumped so unlikely due to liver failure.
   - vitamin K  and recheck INR later tonight
   - will give FFP if INR continues to climb despite Vit K to keep INR
   close to 3.
   Mechanical MVR- Holding anticoagulation given elevated INR.
   ICU Care
   Nutrition:
   Comments: start tube feeds
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2180-9-29**] 07:00 PM
   18 Gauge - [**2180-9-29**] 07:00 PM
   Arterial Line - [**2180-9-29**] 09:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:  40 minutes
   Patient is critically ill

2180-10-01 06:35:00 Physician Resident Progress Note
Chief Complaint:
   Ms. [**Known lastname 5130**] is a 61 yo female  with dilated cardiomyopathy
   (non-ischemic), s/p MVR for rheumatic heart disease, h/o subdural
   hematoma and VP shunt, admitted with urosepsis.
   AM Events:
   - This AM, patient was more lethargic than yesterday, despite weaning
   off sedation. Then, found to be unresponsive with no withdrawal on
   upper extremities to naibed pressure.
   24 Hour Events:
   - Patient
s INR supratherapeutic with peak at noon [**2180-9-29**] at 21.1.
   Given 10mg PO vitamin K, and serial Hcts checked and stable. INR
   trending downwards since, down to 4.1 this AM. Fibrinogen low at 141
   (hapto, FSP wnl), picture may be c/w DIC. LFTs continue to rise with
   normal bili.
   - Vasopressin started [**2180-9-29**] at 6pm with 500ml LR boluses x 2 to help
   decrease ectopy by trying to wean down levophed
   - Patient
s abx coverage broadened with addition of flagyl to cover for
   cdiff as patient
s initial presenting sxs was diarrhea. Stool cultures
   ordered
 FEVER - 102.4
F - [**2180-10-1**] 12:00 AM -> given Tylenol. The patient
   was pancultured yesterday afternoon for fever to 102 with BCx, UCx, and
   CXR
   - Restarted on home levothyrozine and Zoloft.
   - Started on tube feeds
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2180-9-30**] 08:16 PM
   Cefipime - [**2180-9-30**] 09:16 PM
   Metronidazole - [**2180-10-1**] 04:00 AM
   Infusions:
   Fentanyl at 100
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2180-9-30**] 08:00 AM
   Other medications:
   ASA 325mg PO daily
   Lansoprazole
   Insulin sliding scale
   Levothyroxine
   Wellbutryn 100mg PO daily
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-10-1**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 38.3
C (100.9
   HR: 105 (85 - 111) bpm
   BP: 109/65(80) {80/44(56) - 113/67(82)} mmHg
   RR: 24 (19 - 29) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 57 Inch
             Total In:
                                                                  4,760 mL
                                                                    518 mL
   PO:
             TF:
                                                                    103 mL
                                                                    217 mL
   IVF:
                                                                  4,177 mL
                                                                    201 mL
   Blood products:
   Total out:
                                                                  2,847 mL
                                                                    500 mL
   Urine:
                                                                  2,847 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,913 mL
                                                                     19 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI Deferred: Hemodynamic Instability
   PIP: 30 cmH2O
   Plateau: 19 cmH2O
   SpO2: 95%
   ABG: 7.34/30/96.[**Numeric Identifier 244**]/16/-8
   Ve: 9.2 L/min
   PaO2 / FiO2: 277
   Physical Examination
   General Appearance: Thin intubated woman, eyes closed, unresponsive to
   painful stimuli other than slight withdrawal of left leg to pain
   Eyes / Conjunctiva: L pupil 2 mm & reactive, R nonreactive (baseline)
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (Murmur: No(t) Systolic), mechanical S1
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Tone: Not assessed, + corneal reflexes, no gag.  Attempts to
   raise eyebrows when name is called.
   [**Name2 (NI) 503**] / Radiology
   140 K/uL
   11.5 g/dL
   198 mg/dL
   1.0 mg/dL
   16 mEq/L
   4.1 mEq/L
   22 mg/dL
   120 mEq/L
   145 mEq/L
   34.0 %
   9.2 K/uL
        [image002.jpg]
                             [**2180-9-29**]  10:32 PM
                             [**2180-9-30**]  01:44 AM
                             [**2180-9-30**]  01:55 AM
                             [**2180-9-30**]  05:19 AM
                             [**2180-9-30**]  05:48 AM
                             [**2180-9-30**]  12:48 PM
                             [**2180-9-30**]  02:28 PM
                             [**2180-9-30**]  07:38 PM
                             [**2180-9-30**]  07:53 PM
                             [**2180-10-1**]  03:39 AM
   WBC
   14.9
   9.3
   7.5
   9.2
   Hct
   35.3
   32.6
   33.7
   34.0
   Plt
   149
   120
   120
   140
   Cr
   1.6
   1.4
   1.2
   1.0
   TropT
   0.04
   0.02
   TCO2
   16
   16
   16
   16
   17
   Glucose
   161
   125
   101
   198
   Other [**Year (4 digits) **]: PT / PTT / INR:37.8/43.1/4.1, CK / CKMB /
   Troponin-T:67/5/0.02, ALT / AST:99/99, Alk Phos / T Bili:45/0.7,
   Amylase / Lipase:70/28, Differential-Neuts:90.6 %, Lymph:6.3 %,
   Mono:2.8 %, Eos:0.1 %, Fibrinogen:141 mg/dL, Lactic Acid:0.9 mmol/L,
   Albumin:2.9 g/dL, LDH:320 IU/L, Ca++:8.8 mg/dL, Mg++:2.4 mg/dL, PO4:2.0
   mg/dL
   Assessment and Plan
   A/P:  Ms. [**Known lastname 5130**] is a 61 yo female  with dilated cardiomyopathy
   (non-ischemic), s/p MVR for rheumatic heart disease, h/o subdural
   hematoma and VP shunt, admitted with septic shock thought to be [**2-26**]
   urosepsis. Also with possible DIC picture with peak INR 21.1 which is
   now trending downwards. This AM with acute change in mental status and
   unreponsiveness.
   .
   #. Acute change in mental status: Patient was able to interact with
   staff and family last night, this AM without withdrawal to painful
   stimulus except slight withdrawal to nailbed pressure to left toe.
   Positive corneal reflex. Equivocal toes. Concerning as patient with h/o
   VP shunt and also in context of high INR yesterday, would want to r/o
   bleed in head
   - Stat CT of head to r/o bleed
   - continue to hold sedation and follow neuron exam. Patient
s LFTs
   increased so her AMS may be a result of decreased clearance of sedating
   meds
   - if no bleed and no regaining of mental status, can consider further
   w/u such as toxic/metabolic workup
   .
   #. Septic shock.  Patient presented with positive UA, fever, elevated
   WBC, and radiographic evidence of pyelonephritis which indicates
   possible urosepsis. UCx growing out GNR but not in high titers.
   However, we are evaluating for other sources, such as abdominal (with
   diarrhea and history of cdiff in past).   Patient was hypotensive
   requiring levophed and dobutamine, but has been weaned off dobuta and
   has titrated down levophed. Overnight started on vasopressin in effort
   to titrate down levophed. Also given fluid boluses with LR. Abx
   broadened to vanc/cefepime/flagyl. Cultures pending
   - continue vasopressin and levophed. Continue to titrate levophed as
   tolerated
   - IVF bolus to keep maps > 65
   - f/u urine culture
   - f/u blood culture
   - cefepime/vanco/flagyl for broad coverage. f/u speciation and
   sensitivities of GNR in urine to narrow. Called micro lab to add on
   speciation and sensitivities
   - monitor urine output
   .
   #.  Respiratory failure.  Patient was intubated for tachypnea and
   increased work of breathing.  CXR today shows increased interstitial
   edema.  Patient is at risk for developing pulmonary edema due to
   significant fluid boluses.  Serial blood gas shows combined metabolic
   acidosis and respiratory alkalosis with adequate oxygenation.
   - continue mechanical ventillation with effort to normalize pH
   - serial CXR
   - fentanyl/versed for sedation
   .
   #. Elevated INR.  Patient
s INR peaked yesterday at 21.1, then was
   given vitamin K 10mg PO and has been trending downwards to 4.1 since.
   Patient has a history of mitral valve replacement and A. fib so
   important to maintain anticoagulation. anticoagulated with coumadin at
   home, and with h/o HIT so this complicates patient
s anticoagulation.
   Most likely etiology is DIC picture with rising LFTs and decreased
   fibrinogen. Normal bili and patient with no h/o liver disease.
   - follow serial coags and Hct Q6 hrs
   - f/u stat head CT to r/o bleed
 if no bleed and coags continue to
   trend downwards, patient may need anticoagulation bridging with
   argatroban given history of HIT
   - FFP if actively bleeding
   #.  Dilated cardiomyopathy.   Patient reportedly has a non-ischemic
   dilated cardiomyopathy with most recent echo showing an EF of 10%.
   Patient also s/p mitral valve replacement due to rheumatic fever.
   - hold lasix, aldactone, coreg given hypotension
   .
   #.  Rhythm.  Patient still with ectopy on telemetry but decreased from
   prior.  Patient has ICD in place.
   - Continue to titrate down levophed as tolerated which may help
   decrease ectopy
   - monitor on telemetry
   - replete lytes
   .
   #.  ARF.  Patient noted to have Cr of 3.0 on admission with baseline Cr
   of 1.0.  Creatinine is already improving with IVF suggesting an
   pre-renal component.  No signs of hydronephrosis on CT scan.
   - f/u urine lytes
   - follow Cr
   - pressors to maintain MAPS > 65
   - hold lasix, lisinopril, aldactone
   - renally dose all antibiotics
   .
   #.  Hypothyroidism.
   -  levothyroxine  112 4x weekly, 125 3x weekly)
   .
   #. Depression.
   - Zoloft
   .
   PPI.
   Therapeutic INR.
   Communication: Husband and Daughter
   .
   FULL CODE
   RSBI Deferred: Hemodynamic Instability
   PIP: 30 cmH2O
   Plateau: 19 cmH2O
   SpO2: 95%
   ABG: 7.34/30/96.[**Numeric Identifier 244**]/16/-8
   Ve: 9.2 L/min
   PaO2 / FiO2: 277
   ICU Care
   Nutrition:
   Glycemic Control: Nutren 2.0
   Lines:
   Multi Lumen - [**2180-9-29**] 07:00 PM
   18 Gauge - [**2180-9-29**] 07:00 PM
   Arterial Line - [**2180-9-29**] 09:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed, family at bedside including husband
   and daughter [**Name (NI) 1876**] who is primary caregiver at home
   Code status: Full code
   Disposition: ICU for now

2180-10-01 09:28:00 Physician Attending Progress Note
Chief Complaint: septic shock
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61 yo female with cardiomyopathy, adm with septic shock, likely source
   urosepsis.
   24 Hour Events:
 FEVER - 102.4
F - [**2180-10-1**] 12:00 AM
   Bolused x2 with LR 500 ml to facilitate weaning of levophed
   Added vasopressin to wean levophed given significant ventricular ectopy
   Not as awake this AM despite holding sedation.
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2180-9-30**] 08:16 PM
   Cefipime - [**2180-9-30**] 09:16 PM
   Metronidazole - [**2180-10-1**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.06 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2180-10-1**] 08:00 AM
   Other medications:
   aspirin 325 mg daily, peridex, insulin SQ, levothyroxine, wellbutrin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-10-1**] 09:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 36.2
C (97.1
   HR: 98 (85 - 111) bpm
   BP: 109/63(77) {80/44(56) - 114/67(82)} mmHg
   RR: 24 (19 - 29) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 57 Inch
             Total In:
                                                                  4,760 mL
                                                                    779 mL
   PO:
             TF:
                                                                    103 mL
                                                                    278 mL
   IVF:
                                                                  4,177 mL
                                                                    341 mL
   Blood products:
   Total out:
                                                                  2,847 mL
                                                                    680 mL
   Urine:
                                                                  2,847 mL
                                                                    680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,913 mL
                                                                     99 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI Deferred: Hemodynamic Instability
   PIP: 30 cmH2O
   Plateau: 19 cmH2O
   SpO2: 95%
   ABG: 7.34/30/96.[**Numeric Identifier 244**]/16/-8
   Ve: 9.4 L/min
   PaO2 / FiO2: 277
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: L pupil 2 mm & reactive, R nonreactive (baseline)
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (Murmur: No(t) Systolic), mechanical S1
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Tone: Not assessed, + corneal reflexes, no gag.  Does not
   withdraw to pain.  Attempts to raise eyebrows when name is called.
   [**Name2 (NI) 503**] / Radiology
   11.5 g/dL
   140 K/uL
   198 mg/dL
   1.0 mg/dL
   16 mEq/L
   4.1 mEq/L
   22 mg/dL
   120 mEq/L
   145 mEq/L
   34.0 %
   9.2 K/uL
        [image002.jpg]
                             [**2180-9-29**]  10:32 PM
                             [**2180-9-30**]  01:44 AM
                             [**2180-9-30**]  01:55 AM
                             [**2180-9-30**]  05:19 AM
                             [**2180-9-30**]  05:48 AM
                             [**2180-9-30**]  12:48 PM
                             [**2180-9-30**]  02:28 PM
                             [**2180-9-30**]  07:38 PM
                             [**2180-9-30**]  07:53 PM
                             [**2180-10-1**]  03:39 AM
   WBC
   14.9
   9.3
   7.5
   9.2
   Hct
   35.3
   32.6
   33.7
   34.0
   Plt
   149
   120
   120
   140
   Cr
   1.6
   1.4
   1.2
   1.0
   TropT
   0.04
   0.02
   TCO2
   16
   16
   16
   16
   17
   Glucose
   161
   125
   101
   198
   Other [**Year (4 digits) **]: PT / PTT / INR:37.8/43.1/4.1, CK / CKMB /
   Troponin-T:67/5/0.02, ALT / AST:99/99, Alk Phos / T Bili:45/0.7,
   Amylase / Lipase:70/28, Differential-Neuts:90.6 %, Lymph:6.3 %,
   Mono:2.8 %, Eos:0.1 %, Fibrinogen:141 mg/dL, Lactic Acid:0.9 mmol/L,
   Albumin:2.9 g/dL, LDH:320 IU/L, Ca++:8.8 mg/dL, Mg++:2.4 mg/dL, PO4:2.0
   mg/dL
   Imaging: CXR: worsening interstitial edema, L pleural effusion,
   cardiomegaly unchanged
   Microbiology: Urine cx: GNR
   Blood cx: NGTD
   Assessment and Plan
   61 yo female who presented with diarrhea, found to be hypotensive in
   PCP's office and with signs of sepsis on arrival to ED.  Now
   hemodynamics are improving but neurologic exam significantly
   deteriorated over course of the last hour.
   1. Unresponsiveness:  Yesterday was awake and following commands.
   Currently sedation has been off for approx 1 hour and is not
   withdrawing to pain in any extremities (although reportedly was
   withdrawing legs 15 minutes ago.)  Has corneal reflexes but no gag.
   Given her recently elevated INR this is highly concerning for
   intracranial hemorrhage.
   - stat head CT
   - hold sedation
   2. Shock:  Likely sepsis given fevers and history.  This may be
   urosepsis given evidence of pyelo on CT although her urine cx was
   underwhelming and blood cx negative.  Had diarrhea on admission so
   checking C.diff.
   - cont vanc/cefepime/flagyl
   - called lab to identify GNR in urine
   - cont vasopressin, wean levophed as tolerated
   3. Elevated INR:  Improved after vitamin K.  Likely was due to DIC in
   setting of sepsis.  INR now trending down.  If head CT is negative for
   bleed, may need to bridge her with argatroban.
   - repeat INR later today
   4. Respiratory Failure:  Intubated for respiratory distress/tachypnea
   in ED.  Doing well on ventilator currently.  CXR suggestive of volume
   overload but hold diuresis while still on pressors.
   5. ARF:  Likely prerenal due to hypotension, now improved.  Robust UOP.
   6. Coronary Artery Disease/nonischemic cardiomyopathy:
   - Continue ASA/Statin
   - Holding beta-blocker, dig in setting of shock.
   7. Mechanical MVR- Holding anticoagulation given elevated INR.  As
   above, will need argatroban if INR continues to drop.
   ICU Care
   Nutrition:
   Comments: holding tube feeds for high residuals.  Start bowel regimen
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Multi Lumen - [**2180-9-29**] 07:00 PM
   18 Gauge - [**2180-9-29**] 07:00 PM
   Arterial Line - [**2180-9-29**] 09:00 PM
   Comments: Needs IJ today given decreased INR.
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Other, Elevated INR)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2180-10-02 07:24:00 Physician Resident Progress Note
Chief Complaint: Urosepsis, Diarrhea
   24 Hour Events:
   Stat Head CT performed due to unresponsiveness and was found to be
   unchanged.
   Got 12.5 mg of vit K and INR betcame subtherapeutic so started on
   argatroban overnight.
   Groin line removed and IJ placed.
   Patient continues to have ongoing fevers.
 MULTI LUMEN - START [**2180-10-1**] 12:00 PM
   LIJ
 MULTI LUMEN - STOP [**2180-10-2**] 12:17 AM
 FEVER - 102.2
F - [**2180-10-2**] 12:00 AM
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2180-10-1**] 08:00 PM
   Cefipime - [**2180-10-1**] 10:00 PM
   Metronidazole - [**2180-10-2**] 04:10 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Vasopressin - 2.4 units/hour
   Fentanyl - 50 mcg/hour
   Argatroban - 1 mcg/Kg/min
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2180-10-1**] 08:00 AM
   Midazolam (Versed) - [**2180-10-1**] 11:00 AM
   Fentanyl - [**2180-10-1**] 11:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-10-2**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 38.3
C (101
   HR: 96 (76 - 101) bpm
   BP: 106/64(78) {102/54(65) - 158/146(153)} mmHg
   RR: 25 (18 - 26) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 57 Inch
    CVP: 15 (12 - 29)mmHg
   Total In:
                                                                  2,380 mL
                                                                    757 mL
   PO:
   TF:
                                                                    760 mL
                                                                    241 mL
   IVF:
                                                                  1,040 mL
                                                                    296 mL
   Blood products:
   Total out:
                                                                  1,760 mL
                                                                    625 mL
   Urine:
                                                                  1,760 mL
                                                                    525 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                    620 mL
                                                                    132 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI Deferred: Hemodynamic Instability
   PIP: 32 cmH2O
   Plateau: 18 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 97%
   ABG: 7.40/29/94.[**Numeric Identifier 128**]/17/-4
   Ve: 8.9 L/min
   PaO2 / FiO2: 269
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   136 K/uL
   10.2 g/dL
   199 mg/dL
   0.9 mg/dL
   17 mEq/L
   4.0 mEq/L
   18 mg/dL
   122 mEq/L
   148 mEq/L
   30.3 %
   6.0 K/uL
        [image002.jpg]
                             [**2180-9-30**]  05:19 AM
                             [**2180-9-30**]  05:48 AM
                             [**2180-9-30**]  12:48 PM
                             [**2180-9-30**]  02:28 PM
                             [**2180-9-30**]  07:38 PM
                             [**2180-9-30**]  07:53 PM
                             [**2180-10-1**]  03:39 AM
                             [**2180-10-1**]  10:40 AM
                             [**2180-10-1**]  02:48 PM
                             [**2180-10-2**]  02:21 AM
   WBC
   14.9
   9.3
   7.5
   9.2
   5.6
   6.0
   Hct
   35.3
   32.6
   33.7
   34.0
   31.2
   30.3
   Plt
   149
   120
   120
   140
   136
   136
   Cr
   1.4
   1.2
   1.0
   0.9
   TropT
   0.04
   0.02
   TCO2
   16
   16
   17
   19
   Glucose
   125
   101
   198
   199
   Other labs: PT / PTT / INR:42.4/71.6/4.7, CK / CKMB /
   Troponin-T:67/5/0.02, ALT / AST:72/62, Alk Phos / T Bili:38/0.7,
   Amylase / Lipase:70/28, Differential-Neuts:90.6 %, Lymph:6.3 %,
   Mono:2.8 %, Eos:0.1 %, Fibrinogen:141 mg/dL, Lactic Acid:0.9 mmol/L,
   Albumin:2.9 g/dL, LDH:447 IU/L, Ca++:9.1 mg/dL, Mg++:2.5 mg/dL, PO4:1.3
   mg/dL
   Assessment and Plan
   A/P:  Ms. [**Known lastname 5130**] is a 61 yo female  with dilated cardiomyopathy
   (non-ischemic), s/p MVR for rheumatic heart disease, h/o subdural
   hematoma and VP shunt, admitted with septic shock thought to be [**2-26**]
   urosepsis. Also with possible DIC picture with peak INR 21.1 which is
   now trending downwards. This AM with acute change in mental status and
   unreponsiveness.
   .
   #. Acute change in mental status: Patient was able to interact with
   staff and family last night, this AM without withdrawal to painful
   stimulus except slight withdrawal to nailbed pressure to left toe.
   Positive corneal reflex. Equivocal toes. Concerning as patient with h/o
   VP shunt and also in context of high INR yesterday, would want to r/o
   bleed in head
   - Stat CT of head to r/o bleed
   - continue to hold sedation and follow neuron exam. Patient
s LFTs
   increased so her AMS may be a result of decreased clearance of sedating
   meds
   - if no bleed and no regaining of mental status, can consider further
   w/u such as toxic/metabolic workup
   .
   #. Septic shock.  Patient presented with positive UA, fever, elevated
   WBC, and radiographic evidence of pyelonephritis which indicates
   possible urosepsis. UCx growing out GNR but not in high titers.
   However, we are evaluating for other sources, such as abdominal (with
   diarrhea and history of cdiff in past).   Patient was hypotensive
   requiring levophed and dobutamine, but has been weaned off dobuta and
   has titrated down levophed. Overnight started on vasopressin in effort
   to titrate down levophed. Also given fluid boluses with LR. Abx
   broadened to vanc/cefepime/flagyl. Cultures pending
   - continue vasopressin and levophed. Continue to titrate levophed as
   tolerated
   - IVF bolus to keep maps > 65
   - f/u urine culture
   - f/u blood culture
   - cefepime/vanco/flagyl for broad coverage. f/u speciation and
   sensitivities of GNR in urine to narrow. Called micro lab to add on
   speciation and sensitivities
   - monitor urine output
   .
   #.  Respiratory failure.  Patient was intubated for tachypnea and
   increased work of breathing.  CXR today shows increased interstitial
   edema.  Patient is at risk for developing pulmonary edema due to
   significant fluid boluses.  Serial blood gas shows combined metabolic
   acidosis and respiratory alkalosis with adequate oxygenation.
   - continue mechanical ventillation with effort to normalize pH
   - serial CXR
   - fentanyl/versed for sedation
   .
   #. Elevated INR.  Patient
s INR peaked yesterday at 21.1, then was
   given vitamin K 10mg PO and has been trending downwards to 4.1 since.
   Patient has a history of mitral valve replacement and A. fib so
   important to maintain anticoagulation. anticoagulated with coumadin at
   home, and with h/o HIT so this complicates patient
s anticoagulation.
   Most likely etiology is DIC picture with rising LFTs and decreased
   fibrinogen. Normal bili and patient with no h/o liver disease.
   - follow serial coags and Hct Q6 hrs
   - f/u stat head CT to r/o bleed
 if no bleed and coags continue to
   trend downwards, patient may need anticoagulation bridging with
   argatroban given history of HIT
   - FFP if actively bleeding
   #.  Dilated cardiomyopathy.   Patient reportedly has a non-ischemic
   dilated cardiomyopathy with most recent echo showing an EF of 10%.
   Patient also s/p mitral valve replacement due to rheumatic fever.
   - hold lasix, aldactone, coreg given hypotension
   .
   #.  Rhythm.  Patient still with ectopy on telemetry but decreased from
   prior.  Patient has ICD in place.
   - Continue to titrate down levophed as tolerated which may help
   decrease ectopy
   - monitor on telemetry
   - replete lytes
   .
   #.  ARF.  Patient noted to have Cr of 3.0 on admission with baseline Cr
   of 1.0.  Creatinine is already improving with IVF suggesting an
   pre-renal component.  No signs of hydronephrosis on CT scan.
   - f/u urine lytes
   - follow Cr
   - pressors to maintain MAPS > 65
   - hold lasix, lisinopril, aldactone
   - renally dose all antibiotics
   .
   #.  Hypothyroidism.
   -  levothyroxine  112 4x weekly, 125 3x weekly)
   .
   #. Depression.
   - Zoloft
   .
   PPI.
   Therapeutic INR.
   Communication: Husband and Daughter
   .
   FULL CODE
   RSBI Deferred: Hemodynamic Instability
   PIP: 30 cmH2O
   Plateau: 19 cmH2O
   SpO2: 95%
   ABG: 7.34/30/96.[**Numeric Identifier 244**]/16/-8
   Ve: 9.2 L/min
   PaO2 / FiO2: 277
   ICU Care
   Nutrition:
   Nutren 2.0 ([**1-28**]) - [**2180-10-2**] 04:58 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2180-9-29**] 07:00 PM
   Arterial Line - [**2180-9-29**] 09:00 PM
   Multi Lumen - [**2180-10-1**] 12:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: argatroban)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2180-10-02 10:47:00 Physician Attending Progress Note
Chief Complaint: septic shock
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61 yo female who presented with diarrhea, found to be hypotensive in
   PCP's office and with signs of sepsis .  Now improving, on decreasing
   dose of pressors.
   24 Hour Events:
 MULTI LUMEN - START [**2180-10-1**] 12:00 PM
   LIJ
 MULTI LUMEN - STOP [**2180-10-2**] 12:17 AM
 FEVER - 102.2
F - [**2180-10-2**] 12:00 AM
   Levophed off this morning, just on vasopressin.
   Started on argatroban as INR became subtherapeutic.
   Head CT yest morning negative for acute change.
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2180-10-1**] 08:00 PM
   Cefipime - [**2180-10-1**] 10:00 PM
   Metronidazole - [**2180-10-2**] 04:10 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Vasopressin - 2.4 units/hour
   Fentanyl - 50 mcg/hour
   Argatroban - 7.51 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2180-10-1**] 11:00 AM
   Fentanyl - [**2180-10-1**] 11:00 AM
   Other medications:
   aspirin 325 mg daily, peridex, lansoprazole, colace, synthroid,
   sertraline, senna
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-10-2**] 10:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 38.6
C (101.4
   HR: 71 (71 - 97) bpm
   BP: 99/48(62) {99/48(62) - 158/146(153)} mmHg
   RR: 24 (18 - 26) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 57 Inch
   CVP: 12 (12 - 29)mmHg
   Total In:
                                                                  2,380 mL
                                                                  1,282 mL
   PO:
   TF:
                                                                    760 mL
                                                                    366 mL
   IVF:
                                                                  1,040 mL
                                                                    635 mL
   Blood products:
   Total out:
                                                                  1,760 mL
                                                                    962 mL
   Urine:
                                                                  1,760 mL
                                                                    862 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                    620 mL
                                                                    320 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI Deferred: Hemodynamic Instability
   PIP: 32 cmH2O
   Plateau: 18 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 95%
   ABG: 7.37/33/124/17/-4
   Ve: 8.9 L/min
   PaO2 / FiO2: 354
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: R pupil dilated, unchanged
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: mechanical S1.  No murmur.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   R base, No(t) Wheezes : )
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   10.2 g/dL
   136 K/uL
   199 mg/dL
   0.9 mg/dL
   17 mEq/L
   4.0 mEq/L
   18 mg/dL
   122 mEq/L
   148 mEq/L
   30.3 %
   6.0 K/uL
        [image002.jpg]
                             [**2180-9-30**]  05:48 AM
                             [**2180-9-30**]  12:48 PM
                             [**2180-9-30**]  02:28 PM
                             [**2180-9-30**]  07:38 PM
                             [**2180-9-30**]  07:53 PM
                             [**2180-10-1**]  03:39 AM
                             [**2180-10-1**]  10:40 AM
                             [**2180-10-1**]  02:48 PM
                             [**2180-10-2**]  02:21 AM
                             [**2180-10-2**]  08:06 AM
   WBC
   9.3
   7.5
   9.2
   5.6
   6.0
   Hct
   32.6
   33.7
   34.0
   31.2
   30.3
   Plt
   120
   120
   140
   136
   136
   Cr
   1.2
   1.0
   0.9
   TropT
   0.02
   TCO2
   16
   16
   17
   19
   20
   Glucose
   101
   198
   199
   Other labs: PT / PTT / INR:42.4/85.4/4.7, CK / CKMB /
   Troponin-T:67/5/0.02, ALT / AST:72/62, Alk Phos / T Bili:38/0.7,
   Amylase / Lipase:70/28, Differential-Neuts:90.6 %, Lymph:6.3 %,
   Mono:2.8 %, Eos:0.1 %, Fibrinogen:141 mg/dL, Lactic Acid:0.9 mmol/L,
   Albumin:2.9 g/dL, LDH:447 IU/L, Ca++:9.1 mg/dL, Mg++:2.5 mg/dL, PO4:1.3
   mg/dL
   Imaging: CXR: worsened opacity at R base, likely effusion.  Continued
   cardiomegaly.
   Microbiology: Urine cx w/GNR, blood cx negative.  Sputum cx [**10-1**] [**11-18**]
   PMNs, <10 epis, no organisms.
   Assessment and Plan
   61 yo female who presented with diarrhea, found to be hypotensive in
   PCP's office and with signs of sepsis on arrival to ED.  Now
   hemodynamics are improving but is persistently febrile.
    1. Shock:  Likely sepsis given fevers and history.  This may be
   urosepsis given evidence of pyelo on CT although her urine cx was
   underwhelming and blood cx negative.  Had diarrhea on admission so
   checking C.diff.  Concerning that she continues to have fevers despite
   underwhelming culture data.
   - cont vanc/cefepime/flagyl
   - called lab to identify GNR in urine
   - levophed off, attempt to d/c vasopressin later
   - renal u/s to assess for perinephric fluid collection
   2. Elevated INR:  Was likely due to DIC but then became subtherapeutic
   after vitamin K.
   - cont argatroban (has hx HIT and also hx of clotting valve)
   3. Respiratory Failure:  Intubated for respiratory distress/tachypnea
   in ED.  Doing well on ventilator currently.
   - attempt PSV today
   - wean sedation
   4. ARF:  Likely prerenal due to hypotension, now improved.  Robust UOP.
   5. Coronary Artery Disease/nonischemic cardiomyopathy:
   - Continue ASA/Statin
   - Holding beta-blocker, dig in setting of shock.
   6. Mechanical MVR- Argatroban.  Restart coumadin once stabilized.
   ICU Care
   Nutrition:
   Nutren 2.0 ([**1-28**]) - [**2180-10-2**] 04:58 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   18 Gauge - [**2180-9-29**] 07:00 PM
   Arterial Line - [**2180-9-29**] 09:00 PM
   Multi Lumen - [**2180-10-1**] 12:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Other, Argatroban)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 min
   Patient is critically ill

2180-10-03 07:03:00 Physician Resident Progress Note
Chief Complaint: fever, leukocytosis, and ?urosepsis
   24 Hour Events:
   Digoxin was resumed.
   Renal ultrasound performed and negative for abscess.
   Ongoing daily fevers
   Dr. [**Last Name (STitle) 1137**] informed of patient's admission to MICU.
   Regland initiated.  Patient having bowel movements.
   Patient is off vasopressin.
 FEVER - 102.8
F - [**2180-10-2**] 04:00 PM
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2180-10-2**] 08:00 PM
   Cefipime - [**2180-10-2**] 10:15 PM
   Metronidazole - [**2180-10-3**] 04:30 AM
   Infusions:
   Midazolam (Versed) - 0.1 mg/hour
   Argatroban - 0.75 mcg/Kg/min
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Other medications:
   Digoxin 0.125 qod
   Insulin Sliding Scale
   Argatroban
   Lactulose
   Colace
   Senna
   Flagyl
   Vanco
   Cefepime
   Vasopressing
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-10-3**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.8
   Tcurrent: 38.6
C (101.5
   HR: 79 (67 - 123) bpm
   BP: 97/68(78) {93/43(56) - 162/151(260)} mmHg
   RR: 23 (18 - 25) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 57 Inch
    CVP: 20 (7 - 32)mmHg
   Total In:
                                                                  3,359 mL
                                                                    801 mL
   PO:
   TF:
                                                                  1,237 mL
   IVF:
                                                                  1,632 mL
                                                                    641 mL
   Blood products:
   Total out:
                                                                  1,543 mL
                                                                    270 mL
   Urine:
                                                                  1,443 mL
                                                                    270 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  1,816 mL
                                                                    531 mL
   LOS positive for 12 L
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 385 (341 - 438) mL
   PS : 8 cmH2O
   RR (Set): 24
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 93
   PIP: 14 cmH2O
   Plateau: 18 cmH2O
   SpO2: 97%
   ABG: 7.36/40/101/18/-2
   Ve: 10.4 L/min
   PaO2 / FiO2: 289
   Physical Examination
   Gen: intubated, sedation, labored breathing
   HEENT: right dilated pupil, right sided VP shunt present
   CV: mechanical S1, RRR, no m/r/g
   Abd: mildly distended, soft, NT, bowel sounds present
   Pulm: Clear anteriorly
   Ext: no peripheral edema
   Labs / Radiology
   135 K/uL
   9.7 g/dL
   118 mg/dL
   0.9 mg/dL
   18 mEq/L
   3.5 mEq/L
   23 mg/dL
   124 mEq/L
   153 mEq/L
   28.6 %
   7.6 K/uL
        [image002.jpg]
                             [**2180-9-30**]  07:53 PM
                             [**2180-10-1**]  03:39 AM
                             [**2180-10-1**]  10:40 AM
                             [**2180-10-1**]  02:48 PM
                             [**2180-10-2**]  02:21 AM
                             [**2180-10-2**]  08:06 AM
                             [**2180-10-2**]  06:34 PM
                             [**2180-10-2**]  08:31 PM
                             [**2180-10-3**]  02:43 AM
                             [**2180-10-3**]  02:55 AM
   WBC
   9.2
   5.6
   6.0
   7.6
   Hct
   34.0
   31.2
   30.3
   28.8
   28.6
   Plt
   140
   136
   136
   135
   Cr
   1.0
   0.9
   0.9
   TropT
   0.02
   TCO2
   17
   19
   20
   21
   24
   Glucose
   198
   199
   118
   Other labs: PT / PTT / INR:53.3/78.4/6.2, CK / CKMB /
   Troponin-T:67/5/0.02, ALT / AST:53/35, Alk Phos / T Bili:46/0.8,
   Amylase / Lipase:70/28, Differential-Neuts:90.6 %, Lymph:6.3 %,
   Mono:2.8 %, Eos:0.1 %, Fibrinogen:141 mg/dL, Lactic Acid:0.9 mmol/L,
   Albumin:2.9 g/dL, LDH:251 IU/L, Ca++:8.8 mg/dL, Mg++:2.4 mg/dL, PO4:2.3
   mg/dL
   Micro:
   [**10-2**]
 C. diff negative
   [**9-29**]
 urine culture
 6,000 E.coli
   Imaging:
   [**10-2**]
 renal ultrasound.
   IMPRESSION: No hydronephrosis. No perinephric fluid collections
   identified.
   Small amount of ascites
   CXR
 [**10-2**].
   FINDINGS: In comparison with study of [**10-1**], there is little change. Huge
   enlargement of the cardiac silhouette persists with AICD again in
   place.
   Probable bilateral effusions with basilar atelectasis.
   Assessment and Plan
   Ms. [**Known lastname 5130**] is a 61 yo female  with dilated cardiomyopathy
   (non-ischemic), s/p MVR for rheumatic heart disease, h/o subdural
   hematoma and VP shunt, admitted with septic shock thought to be [**2-26**]
   urosepsis, with continued fevers on Vanco/Cefepime/Flagyl.
   .
   1.  Septic shock.  Patient presented with positive UA, fever, elevated
   WBC, and radiographic evidence of pyelonephritis which indicates
   possible urosepsis. UCx grew 6,000 organisms, awaiting C&S.  Given
   ongoing fevers in spite of broad spectrum antibiotics and unremarkable
   urine culture, will evaluate for other sources of fever such as C.
   diff.  Will get renal ultrasound to evaluate for abscess and send stool
   cultures (though not having diarrhea and is on Flagyl.  Levophed has
   been weaned after 3 days, but patient still on vasopressin.  Patient
   has VP shunt, so also at risk for shunt infection.
   - continue vanco/cefepime/flagyl
   - attempt to d/c vasopressin
   - IVF bolus to keep maps > 65
   - f/u urine culture
   - f/u blood culture
   - f/u stool culture
   - follow UOP
   - obtain records of prior UTIs from PCP to determine sensitivities of
   prior UTIs
   - consider VP shunt tap in future if patient continues to have fevers
   in spite of broad spectrum abx
    .
   2.  Mental status.  Concern yesterday for unresponsiveness after
   weaning sedation in female with h/o subdural with VP shunt in place for
   h/o hydrocephalus.  Given that patient had INR > 20,stat head ct was
   obtained, but was unchanged from prior.   Later in the day, mental
   status improved with lightening of sedation.
   - minimize sedating meds
   - monitor mental status
   - consider neurosurg consult for VPshunt tap in the future if mental
   status and fevers do not improve
   .
   3.   Respiratory failure.  Patient was intubated for tachypnea and
   increased work of breathing.  CXR today shows increased interstitial
   edema with pleural effusions biltaerally.  Patient is at risk for
   developing pulmonary edema due to significant fluid boluses.  Serial
   blood gas shows combined metabolic acidosis and respiratory alkalosis
   with adequate oxygenation.
   - tiral of pressure support
   - serial CXR
   - minimize fentanyl/versed for sedation
   .
   4. Elevated INR.  INR rose to >20 yesterday, with mild DIC and recent
   coumadin use.  After 10 mg PO of vitamin K, INR fell to 2.4, so
   argatroban was started.  PTT is therapeutic on argatroban now.
   - follow serial coags and [**Hospital1 **] Hcts
   - continue argatroban for anticoagulation and hold off on resuming
   coumadin in case she requires a procedure while in ICU
   - FFP if actively bleeding
   5.   Dilated cardiomyopathy.   Patient reportedly has a non-ischemic
   dilated cardiomyopathy with most recent echo showing an EF of 10%.
   Patient also s/p mitral valve replacement due to rheumatic fever.
   - hold lasix, aldactone, coreg given hypotension
   .
   6.  Rhythm.  Patient still with ectopy on telemetry but decreased from
   prior.  Patient has ICD in place.
   - monitor on telemetry
   - replete lytes
   .
   7.  Hypernatremia.
   - free water boluses
   - follow Na
   .
   8.  Transaminitis.  LFTs mildly elevated, likely secondary to shock
   liver.   Normal T. bili and Alk Phos.
   - follow LFTs
   .
   8.  ARF.  Pre-renal ARF now resolved after aggressive fluids.  No signs
   of hydronephrosis on CT scan.
   - follow Cr
   .
   9.  Hypothyroidism.
   -  levothyroxine  112 4x weekly, 125 3x weekly)
   .
   10. Depression.
   - Zoloft
   .
   PPI.
   Therapeutic INR.
   Communication: Husband and Daughter
   .
   FULL CODE
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2180-9-29**] 07:00 PM
   Arterial Line - [**2180-9-29**] 09:00 PM
   Multi Lumen - [**2180-10-1**] 12:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Other, argatroban)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2180-10-03 09:58:00 Physician Attending Progress Note
Chief Complaint: septic shock
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61 yo female who presented with diarrhea, found to be hypotensive in
   PCP's office and with signs of sepsis on arrival to ED.  Now
   hemodynamics are improving but is persistently febrile
   24 Hour Events:
 FEVER - 102.8
F - [**2180-10-2**] 04:00 PM
   Weaned off vasopressin.
   Weaned to PSV 8/5 yesterday.
   HR up to 120s-140s this AM.  RR mid 20s, pH dropping.  Switched back to
   AC.
   Worsening hypernatremia.
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2180-10-2**] 08:00 PM
   Cefipime - [**2180-10-2**] 10:15 PM
   Metronidazole - [**2180-10-3**] 04:30 AM
   Infusions:
   Midazolam (Versed) - 0.1 mg/hour
   Argatroban - 0.75 mcg/Kg/min
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2180-10-3**] 08:28 AM
   Other medications:
   aspirin 325 mg daily, colace, levothyroxine, zoloft, senna, digoxin
   0.125 every other day, reglan, tylenol prn, lactulose prn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-10-3**] 09:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.8
   Tcurrent: 38.6
C (101.4
   HR: 93 (67 - 132) bpm
   BP: 105/60(73) {93/43(56) - 162/151(260)} mmHg
   RR: 24 (18 - 28) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 57 Inch
   CVP: 17 (7 - 32)mmHg
   Total In:
                                                                  3,359 mL
                                                                  1,424 mL
   PO:
   TF:
                                                                  1,237 mL
   IVF:
                                                                  1,632 mL
                                                                  1,204 mL
   Blood products:
   Total out:
                                                                  1,543 mL
                                                                    465 mL
   Urine:
                                                                  1,443 mL
                                                                    465 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  1,816 mL
                                                                    959 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 398 (341 - 438) mL
   PS : 8 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 93
   PIP: 18 cmH2O
   Plateau: 16 cmH2O
   SpO2: 97%
   ABG: 7.29/34/142/18/-8
   Ve: 10 L/min
   PaO2 / FiO2: 406
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: mechanical S1, no murmur
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: diffusely)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: No(t) Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   135 K/uL
   118 mg/dL
   0.9 mg/dL
   18 mEq/L
   3.5 mEq/L
   23 mg/dL
   124 mEq/L
   153 mEq/L
   28.6 %
   7.6 K/uL
        [image002.jpg]
                             [**2180-10-1**]  03:39 AM
                             [**2180-10-1**]  10:40 AM
                             [**2180-10-1**]  02:48 PM
                             [**2180-10-2**]  02:21 AM
                             [**2180-10-2**]  08:06 AM
                             [**2180-10-2**]  06:34 PM
                             [**2180-10-2**]  08:31 PM
                             [**2180-10-3**]  02:43 AM
                             [**2180-10-3**]  02:55 AM
                             [**2180-10-3**]  07:53 AM
   WBC
   9.2
   5.6
   6.0
   7.6
   Hct
   34.0
   31.2
   30.3
   28.8
   28.6
   Plt
   140
   136
   136
   135
   Cr
   1.0
   0.9
   0.9
   TropT
   0.02
   TCO2
   19
   20
   21
   24
   17
   Glucose
   198
   199
   118
   Other labs: PT / PTT / INR:53.3/78.4/6.2, CK / CKMB /
   Troponin-T:67/5/0.02, ALT / AST:53/35, Alk Phos / T Bili:46/0.8,
   Amylase / Lipase:70/28, Differential-Neuts:90.6 %, Lymph:6.3 %,
   Mono:2.8 %, Eos:0.1 %, Fibrinogen:141 mg/dL, Lactic Acid:0.9 mmol/L,
   Albumin:2.9 g/dL, LDH:251 IU/L, Ca++:8.8 mg/dL, Mg++:2.4 mg/dL, PO4:2.3
   mg/dL
   Imaging: CXR: improved bilateral pleural effusions.  No new infiltrate.
   Renal u/s negative for fluid collection.
   Microbiology: Urine cx with from admission with e.coli.  Blood cx
   remain negative.  C diff negative.
   Sputum cx pending.
   Assessment and Plan
   61 yo female who presented with diarrhea, found to be hypotensive in
   PCP's office and with signs of sepsis on arrival to ED.  Now
   hemodynamics are improving but is persistently febrile.
    1. Shock:  Likely sepsis given fevers and history.  This may be
   urosepsis given evidence of pyelo on CT although her urine cx was
   underwhelming and blood cx negative.  Had diarrhea on admission so
   checking C.diff.  Concerning that she continues to have fevers despite
   underwhelming culture data.  Renal u/s negative for perinephric fluid
   collection.
   - cont vanc/cefepime/flagyl
   - off pressors
   - discuss possibility of shunt tap with Neurosurgery given persistent
   fevers
   2. Respiratory Failure:  Intubated for respiratory distress/tachypnea
   in ED.  Doing well on ventilator currently but became tachycardic and
   tachypneic this morning.  Now looks comfortable again back on AC.
   - diuresis today as bp now stable
   - doubt VAP given no new infiltrate, but will f/u on sputum cx.
   Already on broad spectrum abx.
   3. Hypernatremia:  Had not been getting as much free water due to high
   residuals, so has significant free water deficit today.
   - calculate free water deficit & replete
   - check sodium q6h
   4. ARF:  Likely prerenal due to hypotension, now improved.  Robust UOP.
   5. Coronary Artery Disease/nonischemic cardiomyopathy:
   - Continue ASA/Statin
   - restarted digoxin yesterday
   - likely restart coreg tomorrow if bp stable
   6. Mechanical MVR- Argatroban.  Restart coumadin once stabilized.
   ICU Care
   Nutrition:
   Comments: tube feeds
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   18 Gauge - [**2180-9-29**] 07:00 PM
   Arterial Line - [**2180-9-29**] 09:00 PM
   Multi Lumen - [**2180-10-1**] 12:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Other, argatroban)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 min
   Patient is critically ill

2180-10-04 06:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.4
F - [**2180-10-3**] 08:00 AM
   -          given 40mg IV lasix with no response. Then given 80mg IV
   lasix with more than 2.5L out
   -          increased free water boluses for hypernatremia
   -          RSBI 47
   -          Grossly heme positive stools
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Metronidazole - [**2180-10-3**] 11:59 AM
 day 5
   Vancomycin - [**2180-10-3**] 08:00 PM
 day 5
   Cefipime - [**2180-10-3**] 10:00 PM
 day 5
   Infusions:
   Argatroban - 0.75 mcg/Kg/min
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 0.3 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2180-10-3**] 08:28 AM
   Other medications:
   Reglan 10 IV q6 hours
   Digoxoin 0.125
   Insulin Sliding Scale
   Argatroban drip
   Lactulose PRN
   Colace Senna
   Flagyl
   Vanco
   Cefepime
   Levothyroxine
   Sertraline
   Chlorhexidine gluconate
   Lansoprazole
   Tylenol
   Aspirin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-10-4**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.7
C (99.8
   HR: 79 (76 - 132) bpm
   BP: 100/52(65) {81/40(52) - 125/106(112)} mmHg
   RR: 18 (17 - 36) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 57 Inch
    CVP: 7 (7 - 31)mmHg
   Total In:
                                                                  2,460 mL
                                                                    351 mL
   PO:
   TF:
                                                                    271 mL
   IVF:
                                                                  1,819 mL
                                                                    171 mL
   Blood products:
   Total out:
                                                                  3,835 mL
                                                                    248 mL
   Urine:
                                                                  3,335 mL
                                                                    248 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,375 mL
                                                                    103 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 398 (398 - 398) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 47
   RSBI Deferred: Hemodynamic Instability
   PIP: 15 cmH2O
   Plateau: 14 cmH2O
   SpO2: 100%
   ABG: 7.49/32/127/22/2
   Ve: 9 L/min
   PaO2 / FiO2: 363
   Physical Examination
   Gen: intubated, sedated
   HEENT: right dilated pupil, intubated
   CV: RRR, mechanical S1, no m/r/g
   Pulm: CTA b/l
   Abd: soft, NT, ND, bowel sounds present
   Ext: trace peripheral edema
   Labs / Radiology
   214 K/uL
   9.6 g/dL
   135 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.1 mEq/L
   22 mg/dL
   117 mEq/L
   150 mEq/L
   28.3 %
   10.0 K/uL
        [image002.jpg]
                             [**2180-10-2**]  02:21 AM
                             [**2180-10-2**]  08:06 AM
                             [**2180-10-2**]  06:34 PM
                             [**2180-10-2**]  08:31 PM
                             [**2180-10-3**]  02:43 AM
                             [**2180-10-3**]  02:55 AM
                             [**2180-10-3**]  07:53 AM
                             [**2180-10-3**]  10:12 AM
                             [**2180-10-4**]  03:19 AM
                             [**2180-10-4**]  03:24 AM
   WBC
   6.0
   7.6
   10.0
   Hct
   30.3
   28.8
   28.6
   28.3
   Plt
   136
   135
   214
   Cr
   0.9
   0.9
   0.8
   TCO2
   20
   21
   24
   17
   20
   25
   Glucose
   199
   118
   135
   Other labs: PT / PTT / INR:59.5/64.5/7.1, CK / CKMB /
   Troponin-T:67/5/0.02, ALT / AST:42/31, Alk Phos / T Bili:53/0.8,
   Amylase / Lipase:70/28, Differential-Neuts:90.6 %, Lymph:6.3 %,
   Mono:2.8 %, Eos:0.1 %, Fibrinogen:141 mg/dL, Lactic Acid:0.9 mmol/L,
   Albumin:2.8 g/dL, LDH:263 IU/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:1.6
   mg/dL
   Micro:
   [**10-2**]
 C. diff
 negative
   All cultures negative except for urine culture with 6,000 e. coli on
   [**9-29**].
   .
   CXR. [**2180-10-3**].
   FINDINGS: In comparison with study of [**10-2**], hemidiaphragms are more
   sharply
   seen with mild meniscus formation on the left. This is consistent with
   improving pleural effusions and atelectatic change. Huge enlargement of
   the
   cardiac silhouette persists with an AICD device in place. The other
   tubes
   remain in place.
   Assessment and Plan
   Ms. [**Known lastname 5130**] is a 61 yo female  with dilated cardiomyopathy
   (non-ischemic), s/p MVR for rheumatic heart disease, h/o subdural
   hematoma and VP shunt, admitted with septic shock and persistently
   febrile in spite of vanco/cefepime/flagyl.
   .
   1.  Septic shock.  Patient presented with positive UA, fever, elevated
   WBC, and radiographic evidence of pyelonephritis which initially
   thought to be due to urosepsis.  However, UCx grew only 6000 E. coli.
   Concerning for alternative explanation of sepsis, though no clear
   alternative source.  Being covered for bowel pathogens and c. diff with
   flagyl.  All other cultures have been negative.  Hemodynamically
   patient is significantly improved (now off pressors), but has
   persistent daily fevers.  Renal ultrasound negative for abscess.
   Neurosurg feels VP shunt is unlikely.  Also has mechanical mitral
   valve.
   -speak with neurosurg re: tapping her VP shunt as potential source of
   infection
   - continue vanco/cefepime/flagyl
   - f/u culture data
   - follow UOP, bolus for low UOP
   - obtain records of prior UTIs from PCP to determine sensitivities of
   prior UTIs
   .
   2.  Mental status.  Patient has been sedated with fentanyl/versed with
   inability to follow commands at present.  Will assess mental status
   after decreasing her sedation.  Head CT obtained 24 hours after
   admission appeared to be unchanged, though patient has large CVA and a
   VP shunt in place.  Neurosurg feels shunt infection is less likely
   given that it has been in place for several years.  Patient has been
   adequately anticoagulated during ICU stay making embolic or thrombotic
   event less likely than a hemorrhagic event.
   - monitor mental status
   - consider head CT versus MRI if mental status fails to improve off
   sedation
   .
   3.   Respiratory failure.  Patient was intubated for tachypnea and
   increased work of breathing.  CXR shows pleural effusion.  Had RSB of
   47 overnight and tolerated SBT though inability to respond to commands
   remains a [**Known lastname **] to extubation.    Increased tachycardia while off
   sedation is also a [**Last Name (LF) **], [**First Name3 (LF) **] will resume home coreg.
   - continue lasix IV 80 x 1 to diurese patient given pleural effusion
   - serial CXR
   .
   4. Elevated INR.  INR rose to >20 on admission, with mild DIC and
   recent coumadin use.  After 10 mg PO of vitamin K, INR fell to 2.4, so
   argatroban was started.  PTT is therapeutic on argatroban now.   Now
   with guaic positive stools and stable hematocrit.
   - follow serial coags
   - continue argatroban for anticoagulation and hold off on resuming
   coumadin in case she requires a procedure while in ICU
   - FFP if actively bleeding
   - [**Hospital1 **] Hct today given newly guiaic positive stools
   5.   Dilated cardiomyopathy.   Patient reportedly has a non-ischemic
   dilated cardiomyopathy with most recent echo showing an EF of 10%.
   Patient also s/p mitral valve replacement due to rheumatic fever.
   - hold aldactone given hypotension
   - continue lasix 80 IV x 1 for diuresis
   - resume coreg today
   .
   6.  Rhythm.  Patient still with ectopy on telemetry but decreased from
   prior.  Patient has ICD in place.  Increased tachycardia when sedation
   is lightened.
   - monitor on telemetry
   - replete lytes
   .
   7.  Hypernatremia.  Continue free water boluses and D5W.  KVOs switched
   to D5W.  Will
   - free water boluses while getting tube feeds
   - follow Na
   .
   9.  Hypothyroidism.
   -  levothyroxine  112 4x weekly, 125 3x weekly)
   .
   10. Depression.
   - Zoloft
   .
   PPI.
   Therapeutic PTT on argatroban
   Communication: Husband and Daughter
   .
   FULL CODE
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2180-9-29**] 09:00 PM
   Multi Lumen - [**2180-10-1**] 12:00 PM
   Prophylaxis:
   DVT: therapeutic argatroban
   Stress ulcer: Lansoprazole
   VAP:  VAP precautions
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU care

2180-10-04 10:27:00 Physician Attending Progress Note
Chief Complaint: septic shock
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61 yo female who presented with diarrhea, found to be hypotensive in
   PCP's office and with signs of sepsis on arrival to ED.  Now
   hemodynamics are improving but is persistently febrile
   24 Hour Events:
 FEVER - 101.4
F - [**2180-10-3**] 08:00 AM
   Diuresed yesterday with lasix.
   RSBI 43 this AM but appeared labored during SBT.
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Metronidazole - [**2180-10-3**] 11:59 AM
   Vancomycin - [**2180-10-3**] 08:00 PM
   Cefipime - [**2180-10-3**] 10:00 PM
   Infusions:
   Argatroban - 0.75 mcg/Kg/min
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 0.3 mg/hour
   Other ICU medications:
   Other medications:
   aspirin 325, peridex, lansoprazole, colace, insulin sliding scale,
   sertraline, senna, reglan, digoxin, synthroid, lasix 40 IV x1 and 80 IV
   x1
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-10-4**] 10:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.8
C (100.1
   HR: 103 (76 - 103) bpm
   BP: 105/66(78) {81/40(52) - 125/106(112)} mmHg
   RR: 22 (17 - 36) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 57 Inch
   CVP: 7 (7 - 22)mmHg
   Total In:
                                                                  2,460 mL
                                                                  1,031 mL
   PO:
   TF:
                                                                    271 mL
   IVF:
                                                                  1,819 mL
                                                                    761 mL
   Blood products:
   Total out:
                                                                  3,835 mL
                                                                    428 mL
   Urine:
                                                                  3,335 mL
                                                                    428 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,375 mL
                                                                    603 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 194 (194 - 194) mL
   RR (Set): 16
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 47
   RSBI Deferred: Hemodynamic Instability
   PIP: 21 cmH2O
   Plateau: 14 cmH2O
   SpO2: 99%
   ABG: 7.49/29/144/22/0
   Ve: 8.5 L/min
   PaO2 / FiO2: 411
   Physical Examination
   General Appearance: Well nourished, No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S2: Normal), mechanical S1.  No murmur
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Verbal stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   214 K/uL
   135 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.1 mEq/L
   22 mg/dL
   117 mEq/L
   150 mEq/L
   28.3 %
   10.0 K/uL
        [image002.jpg]
                             [**2180-10-2**]  08:06 AM
                             [**2180-10-2**]  06:34 PM
                             [**2180-10-2**]  08:31 PM
                             [**2180-10-3**]  02:43 AM
                             [**2180-10-3**]  02:55 AM
                             [**2180-10-3**]  07:53 AM
                             [**2180-10-3**]  10:12 AM
                             [**2180-10-4**]  03:19 AM
                             [**2180-10-4**]  03:24 AM
                             [**2180-10-4**]  09:24 AM
   WBC
   7.6
   10.0
   Hct
   28.8
   28.6
   28.3
   Plt
   135
   214
   Cr
   0.9
   0.8
   TCO2
   20
   21
   24
   17
   20
   25
   23
   Glucose
   118
   135
   Other labs: PT / PTT / INR:59.5/63.4/7.1, CK / CKMB /
   Troponin-T:67/5/0.02, ALT / AST:42/31, Alk Phos / T Bili:53/0.8,
   Amylase / Lipase:70/28, Differential-Neuts:90.6 %, Lymph:6.3 %,
   Mono:2.8 %, Eos:0.1 %, Fibrinogen:141 mg/dL, Lactic Acid:1.7 mmol/L,
   Albumin:2.8 g/dL, LDH:263 IU/L, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:1.6
   mg/dL
   Imaging: CXR: bilateral pleural effusions, stable pulmonary vascular
   markings
   Microbiology: Urine from admission with E.coli, remainder negative
   Assessment and Plan
   61 yo female who presented with diarrhea, found to be hypotensive in
   PCP's office and with signs of sepsis on arrival to ED.  Now
   hemodynamics are improving but is persistently febrile.
    1. Shock:  Likely sepsis given fevers and history.  This may be
   urosepsis given evidence of pyelo on CT although her urine cx was
   underwhelming and blood cx negative.  Had diarrhea on admission; c.diff
   negative & stool cx pending.  Renal u/s negative for perinephric fluid
   collection.  Overall fever curve trending down.
   - cont vanc/cefepime/flagyl
   - off pressors
   - discussed possibility of shunt tap with Neurosurgery given persistent
   fevers: they felt unlikely to be shunt infection given that it was
   placed 5 years ago.
   2. Respiratory Failure:  Intubated for respiratory distress/tachypnea
   in ED.  RSBI this AM was good but mental status limiting extubation
   right now.
   - continue to hold sedation and reevaluate for extubation later today
   - diuresis today as bp now stable
   3. Hypernatremia:  Improved today.  Start D5W as not getting boluses
   due to holding tube feeds for potential extubation.
   4. ARF:  Resolved.
   5. Coronary Artery Disease/nonischemic cardiomyopathy:
   - Continue ASA/Statin
   - restarted digoxin
   - Diurese today
   - restart home-beta blocker
   6. Mechanical MVR- Argatroban.  Restart coumadin once stabilized.
   ICU Care
   Nutrition:
   Comments: holding tube feeds
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Arterial Line - [**2180-9-29**] 09:00 PM
   Multi Lumen - [**2180-10-1**] 12:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Other, argatroban)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 min

2180-10-05 06:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Restarted on low dose betablocker.
   Did well on RSBI, SBT, however, did not wake up/follow commands (even
   when spoken in Italian).  Moved only R leg. Sedation was held, however,
   pt then became tachypnic, tachycardia, and distressed.  Started on
   propofol.
   Had episode of hypotension (SBP 80s, MAP 50)- received NS 500 ml bolus
   x2. (Had diuresed well to lasix and also had lg stool output). SBP
   improved to 100s.
   Given Lasix 80 mg IV in AM.
   Fever curve trending down
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Heparin Agents
   Thrombocytopenia
   Last dose of Antibiotics:
   Metronidazole - [**2180-10-3**] 11:59 AM
   Vancomycin - [**2180-10-4**] 10:00 PM
   Cefipime - [**2180-10-4**] 10:00 PM
   Infusions:
   Argatroban - 0.75 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2180-10-4**] 01:00 PM
   Other medications:
   Neutraphos 2pkts [**Hospital1 **]
   Propofol drip
   Reglan 10 mg IV q6 hours
   Insulin Sliding scale
   Argatroban drip
   Lactulose PRN
   Colace [**Hospital1 **]
   Senna [**Hospital1 **]
   Flagyl 500 TID
   Vancomycin 750 IV q 24 hours
   Cefepime 2 g IV q 24 hour
   Levothyroxine
   Sertraline 100 mg daily
   Chlorhexidine
   Lansoprazole
   Tylenol PRN
   Aspirin 325
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Gastrointestinal: Diarrhea
   Flowsheet Data as of  [**2180-10-5**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.2
C (99
   HR: 74 (71 - 146) bpm
   BP: 102/56(69) {85/45(57) - 122/82(95)} mmHg
   RR: 30 (17 - 30) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 57 Inch
    CVP: 236 (10 - 242)mmHg
   Total In:
                                                                  4,602 mL
                                                                    641 mL
   PO:
   TF:
                                                                    127 mL
   IVF:
                                                                  3,495 mL
                                                                    641 mL
   Blood products:
   Total out:
                                                                  2,968 mL
                                                                    170 mL
   Urine:
                                                                  2,468 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,634 mL
                                                                    471 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 197 (79 - 197) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI Deferred: No Spon Resp
   PIP: 23 cmH2O
   Plateau: 16 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 98%
   ABG: 7.50/29/117//0
   Ve: 7.1 L/min
   PaO2 / FiO2: 334
   Physical Examination
   Gen: intubated, alert
   HEENT: right dilated pupil, intubated
   CV: RRR, mechanical s1, no m/r/g
   Pulm: Clear anteriorly
   Abd: Soft, NT, ND, bowel sounds present
   Ext: trace peripheral edema
   Neuro: now moving all extremities, responding to commands,
   Labs / Radiology
   239 K/uL
   8.5 g/dL
   135 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.5 mEq/L
   22 mg/dL
   115 mEq/L
   142 mEq/L
   24.8 %
   8.3 K/uL
        [image002.jpg]
                             [**2180-10-3**]  02:55 AM
                             [**2180-10-3**]  07:53 AM
                             [**2180-10-3**]  10:12 AM
                             [**2180-10-4**]  03:19 AM
                             [**2180-10-4**]  03:24 AM
                             [**2180-10-4**]  09:24 AM
                             [**2180-10-4**]  12:54 PM
                             [**2180-10-4**]  04:27 PM
                             [**2180-10-5**]  05:08 AM
                             [**2180-10-5**]  05:31 AM
   WBC
   10.0
   8.3
   Hct
   28.3
   27.9
   24.8
   Plt
   214
   239
   Cr
   0.8
   TCO2
   24
   17
   20
   25
   23
   23
   23
   Glucose
   135
   Other labs: PT / PTT / INR:59.5/68.3/7.1, CK / CKMB /
   Troponin-T:67/5/0.02, ALT / AST:42/31, Alk Phos / T Bili:53/0.8,
   Amylase / Lipase:70/28, Differential-Neuts:90.6 %, Lymph:6.3 %,
   Mono:2.8 %, Eos:0.1 %, Fibrinogen:141 mg/dL, Lactic Acid:1.7 mmol/L,
   Albumin:2.8 g/dL, LDH:263 IU/L, Ca++:7.5 mg/dL, Mg++:2.0 mg/dL, PO4:2.0
   mg/dL
   Micro: [**10-2**]
   Stool culture
 negative
   c. diff negative
   Blood cultures x 2
 negative
   Sputum culture - negative
   Assessment and Plan
   Ms. [**Known lastname 5130**] is a 61 yo female  with dilated cardiomyopathy
   (non-ischemic), s/p MVR for rheumatic heart disease, h/o subdural
   hematoma and VP shunt, admitted with septic shock of unclear etiology
   on day 6 of 10 of vanco/cefepime/flagyl.
   .
   1.  Septic shock.  Patient presented with positive UA, fever, elevated
   WBC, and radiographic evidence of pyelonephritis which initially
   thought to be due to urosepsis.  However, UCx grew only 6000 E. coli.
   Concerning for alternative explanation of sepsis, though no clear
   alternative source.  Being covered for bowel pathogens and c. diff with
   flagyl.  All other cultures have been negative.   Renal ultrasound
   negative for abscess.  Neurosurg feels VP shunt is unlikely.  Also has
   mechanical mitral valve.Of note, patient has history of dental
   infection with recommendation for extraction of tooth, however, was
   deferred due to patient
s anticoagulation.  Patient is hemodynamically
   improved (off pressors for several days) and improved fever curve (now
   Afebrile for > 24 hours).  Hypotension in last 24 hours thought to be
   due to propofol use.
   - continue vanco/cefepime/flagyl
   - f/u culture data
   .
   2.   Respiratory failure.  Patient was intubated for tachypnea and
   increased work of breathing.  CXR shows persistent pleural effusion.
   Yesterday, inability to respond to commands made her unable to be
   extubated.  Also had tachycardia to 160s at the end of SBT concerning
   for panic attack.   Given her significant cardiomyopathy, will try to
   diurese her today to optimize her for extubation.
   - lasix 80 IV prn with goal diuresis of [**1-26**] liters per day
   - serial CXR
   .
   3.  Mental status.  Patient has been sedated with fentanyl/versed with
   inability to follow commands at present.  Will assess mental status
   after decreasing her sedation.  Head CT obtained 24 hours after
   admission appeared to be unchanged, though patient has large CVA and a
   VP shunt in place.  Neurosurg feels shunt infection is less likely
   given that it has been in place for several years.  Patient has been
   adequately anticoagulated during ICU stay making embolic or thrombotic
   event less likely than a hemorrhagic event.  Today, has improved mental
   status off sedation.  Nowe moving all extremities.  Will stop propofol
   and switch to prn fentanyl/versed given ongoing hypotension and
   difficulty successfully diuresing with her blood pressure being low.
   - monitor mental status
   - prn fentanyl,versed boluses
   .
   4. Anticoagulation.  Now on agatroban drip for mitral valve replacement
   and a. fib with therapeutic INR.  Now with guaic positive stools and
   stable hematocrit.
   - follow serial coags
   - continue argatroban for anticoagulation and hold off on resuming
   coumadin in case she requires a procedure while in ICU
   - FFP if actively bleeding
   - monitor Hct
   5.   Dilated cardiomyopathy.   Patient reportedly has a non-ischemic
   dilated cardiomyopathy with most recent echo showing an EF of 10%.
   Patient also s/p mitral valve replacement due to rheumatic fever.
   Given low EF, will diurese patient to optimize her for extubation.
   Currently getting positive pressure from vent and there is concern that
   without positive pressure after extubation, she may go into pulmonary
   edema.  Will attempt to diurese with lasix prn.  Will stop propofol
   which is causing hypotension and limiting ability to diurese and use
   prn fentanyl/versed.
   - hold aldactone given hypotension
   - continue lasix 80 IV x 1 for diuresis
   - d/c coreg today given low normal BP and normal HR today
   .
   6.  Rhythm.  Patient still with ectopy on telemetry but decreased from
   prior.  Patient has ICD in place.  Increased tachycardia when sedation
   is lightened.
   - monitor on telemetry
   - replete lytes
   .
   7.  Hypernatremia.  Hypernatremia is improved with D5W and free water
   boluses
   - continue free water boluses
   - follow Na
   .
   9.  Hypothyroidism.
   -  levothyroxine  112 4x weekly, 125 3x weekly
   .
   10. Depression.
   - Zoloft
   .
   PPI.
   Therapeutic PTT on argatroban
   Communication: Husband and Daughter
   .
   FULL CODE
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2180-9-29**] 09:00 PM
   Multi Lumen - [**2180-10-1**] 12:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Other, argatroban)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held  Comments:
   Code status: Full code
   Disposition:ICU

2180-10-05 09:46:00 Physician Attending Progress Note
Chief Complaint: septic shock
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61 yo female who presented with septic shock, now off pressors.
   24 Hour Events:
   - restarted on beta-blocker
   - SBT yesterday:  did well but then became tachycardic to 160s and
   tachypneic to the 40s.
   - sedation switched to propofol yesterday and since has been
   hypotensive, requiring bolus x2
   - when sedation was off yesterday, appeared awake but only following
   commands in RLE.  Not withdrawing to pain in other extremities.
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Metronidazole - [**2180-10-3**] 11:59 AM
   Vancomycin - [**2180-10-4**] 10:00 PM
   Cefipime - [**2180-10-4**] 10:00 PM
   Infusions:
   Argatroban - 1 mcg/Kg/min
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2180-10-4**] 01:00 PM
   Other medications:
   aspirin, peridex, prevacid, colace, sertraline, reglan, digoxin,
   synthroid, carvedilol, tylenol prn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-10-5**] 09:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.2
C (97.1
   HR: 70 (68 - 146) bpm
   BP: 89/55(67) {85/45(57) - 122/82(95)} mmHg
   RR: 21 (17 - 30) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 57 Inch
   CVP: 236 (10 - 242)mmHg
   Total In:
                                                                  4,602 mL
                                                                  1,169 mL
   PO:
   TF:
                                                                    127 mL
   IVF:
                                                                  3,495 mL
                                                                  1,169 mL
   Blood products:
   Total out:
                                                                  2,968 mL
                                                                  1,330 mL
   Urine:
                                                                  2,468 mL
                                                                  1,330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,634 mL
                                                                   -161 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 402 (79 - 402) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 98
   RSBI Deferred: No Spon Resp
   PIP: 19 cmH2O
   Plateau: 15 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 99%
   ABG: 7.50/29/117/21/0
   Ve: 8.9 L/min
   PaO2 / FiO2: 334
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S2: Normal), (Murmur: No(t) Systolic), mechanical S1
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   239 K/uL
   117 mg/dL
   0.7 mg/dL
   21 mEq/L
   3.0 mEq/L
   17 mg/dL
   115 mEq/L
   142 mEq/L
   24.8 %
   8.3 K/uL
        [image002.jpg]
                             [**2180-10-3**]  02:55 AM
                             [**2180-10-3**]  07:53 AM
                             [**2180-10-3**]  10:12 AM
                             [**2180-10-4**]  03:19 AM
                             [**2180-10-4**]  03:24 AM
                             [**2180-10-4**]  09:24 AM
                             [**2180-10-4**]  12:54 PM
                             [**2180-10-4**]  04:27 PM
                             [**2180-10-5**]  05:08 AM
                             [**2180-10-5**]  05:31 AM
   WBC
   10.0
   8.3
   Hct
   28.3
   27.9
   24.8
   Plt
   214
   239
   Cr
   0.8
   0.7
   TCO2
   24
   17
   20
   25
   23
   23
   23
   Glucose
   135
   117
   Other labs: PT / PTT / INR:52.4/62.5/6.0, CK / CKMB /
   Troponin-T:67/5/0.02, ALT / AST:42/31, Alk Phos / T Bili:53/0.8,
   Amylase / Lipase:70/28, Differential-Neuts:90.6 %, Lymph:6.3 %,
   Mono:2.8 %, Eos:0.1 %, Fibrinogen:141 mg/dL, Lactic Acid:1.7 mmol/L,
   Albumin:2.8 g/dL, LDH:263 IU/L, Ca++:7.5 mg/dL, Mg++:1.8 mg/dL, PO4:1.6
   mg/dL
   Imaging: CXR with bilateral pleural effusions, cardiomegaly
   Microbiology: Urine cx w/e.coli, other cx negative to date
   Assessment and Plan
   61 yo female who presented with diarrhea, found to be hypotensive in
   PCP's office and with signs of sepsis on arrival to ED.  Now
   hemodynamics are improving but is persistently febrile.
    1. Shock:  Resolved.  Felt to be urosepsis.  Hypotension this AM
   temporally appears related to propofol.
    - cont vanc/cefepime/flagyl
   - off pressors, afebrile
   2. Respiratory Failure:  Intubated for respiratory distress/tachypnea
   in ED.  SBT failure yesterday may have been due to agitation (did well
   initially but then appeared very anxious, tachycardic).
   - diuresis currently limited by hypotension
   - continue to hold sedation and reevaluate for extubation later today
   3. Hypernatremia:  Resolved.
   4. Coronary Artery Disease/nonischemic cardiomyopathy:
   - Continue ASA/Statin
   - restarted digoxin
   - hold coreg given hypotension, restart later today if bp improves
   5. Mechanical MVR- Argatroban.  Restart coumadin once stabilized.
   ICU Care
   Nutrition:
   Comments: tube feeds on hold
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Arterial Line - [**2180-9-29**] 09:00 PM
   Multi Lumen - [**2180-10-1**] 12:00 PM
   Prophylaxis:
   DVT: (argatroban)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 min

2180-10-06 06:58:00 Physician Resident Progress Note
Chief Complaint: septic shock
   24 Hour Events:
   RSBI of 115 during [**Last Name (LF) **], [**First Name3 (LF) **] not extubated.
   Got two doses of IV lasix 80 and was diuresed 1.3 L
   Na fell to 128 after getting 1L D5W and free water boluses.
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2180-10-5**] 08:00 PM
   Cefipime - [**2180-10-5**] 09:00 PM
   Metronidazole - [**2180-10-6**] 04:03 AM
   Infusions:
   Argatroban - 1.5 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2180-10-5**] 08:05 AM
   Other medications:
   Neutra-phos
   Fentanyl bolus
   Versed bolus
   Reglan 10 mg IV q6 hours
   Digoxin 0.125 qod
   Insulin SS
   Argatroban drip
   Lactulose PRN
   Colace
   Vanco/flagyl/cefepime day 7
   Levothyroxine
   Sertraline
   Chlrohexidien
   Lansoprazole
   Tylenol
   Aspirin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-10-6**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 75 (68 - 87) bpm
   BP: 110/60(77) {84/49(60) - 111/67(81)} mmHg
   RR: 20 (15 - 30) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 57 Inch
    CVP: 14 (6 - 22)mmHg
   Total In:
                                                                  3,580 mL
                                                                    686 mL
   PO:
   TF:
                                                                    193 mL
                                                                     23 mL
   IVF:
                                                                  3,037 mL
                                                                    212 mL
   Blood products:
   Total out:
                                                                  4,925 mL
                                                                    270 mL
   Urine:
                                                                  4,125 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,345 mL
                                                                    416 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 343 (336 - 458) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 20
   PEEP: 8 cmH2O
   FiO2: 35%
   RSBI: 63
   PIP: 20 cmH2O
   Plateau: 15 cmH2O
   Compliance: 40 cmH2O/mL
   SpO2: 100%
   ABG: 7.50///22/
   Ve: 8 L/min
   Physical Examination
   Gen: intubated
   HEENT: right dilated pupil, right VP shunt
   CV: RRR, no m/r/g
   Pulm: clear anteriorly
   Abd: soft, NT, ND, bowel sounds present
   Ext: trace peripheral edema
   Labs / Radiology
   316 K/uL
   9.5 g/dL
   114 mg/dL
   0.6 mg/dL
   22 mEq/L
   3.2 mEq/L
   14 mg/dL
   100 mEq/L
   128 mEq/L
   27.7 %
   11.8 K/uL
        [image002.jpg]
                             [**2180-10-3**]  10:12 AM
                             [**2180-10-4**]  03:19 AM
                             [**2180-10-4**]  03:24 AM
                             [**2180-10-4**]  09:24 AM
                             [**2180-10-4**]  12:54 PM
                             [**2180-10-4**]  04:27 PM
                             [**2180-10-5**]  05:08 AM
                             [**2180-10-5**]  05:31 AM
                             [**2180-10-5**]  02:51 PM
                             [**2180-10-6**]  02:50 AM
   WBC
   10.0
   8.3
   11.8
   Hct
   28.3
   27.9
   24.8
   27.7
   Plt
   [**Telephone/Fax (3) 5326**]
   Cr
   0.8
   0.7
   0.7
   0.6
   TCO2
   20
   25
   23
   23
   23
   Glucose
   135
   117
   134
   114
   Other labs: PT / PTT / INR:41.6/59.6/4.6, CK / CKMB /
   Troponin-T:67/5/0.02, ALT / AST:42/31, Alk Phos / T Bili:53/0.8,
   Amylase / Lipase:70/28, Differential-Neuts:90.6 %, Lymph:6.3 %,
   Mono:2.8 %, Eos:0.1 %, Fibrinogen:141 mg/dL, Lactic Acid:1.7 mmol/L,
   Albumin:2.8 g/dL, LDH:263 IU/L, Ca++:8.2 mg/dL, Mg++:1.7 mg/dL, PO4:2.4
   mg/dL
   Micro: no new data
   [**10-5**].  Chest X-ray.  Wet read:
   1. Globoid cardiomegaly with right-sided chamber enlargement and CHF,
   unchanged since yesterday's examination.
   2. Support tubes and lines grossly unchanged, without evident
   complication.
   Assessment and Plan
   Ms. [**Known lastname 5130**] is a 61 yo female  with dilated cardiomyopathy
   (non-ischemic), s/p MVR for rheumatic heart disease, h/o subdural
   hematoma and VP shunt, admitted with septic shock of unclear etiology
   on day 7 of 10 of vanco/cefepime/flagyl.
   .
   1.  Septic shock.  Patient presented with positive UA, fever, elevated
   WBC, and radiographic evidence of pyelonephritis which initially
   thought to be due to urosepsis.  However, UCx grew only 6000 E. coli.
   Concerning for alternative explanation of sepsis, though no clear
   alternative source.  Being covered for bowel pathogens and c. diff with
   flagyl.  All other cultures have been negative.   Renal ultrasound
   negative for abscess.  Neurosurg feels VP shunt is unlikely.  Also has
   mechanical mitral valve.Of note, patient has history of dental
   infection with recommendation for extraction of tooth, however, was
   deferred due to patient
s anticoagulation.  Patient is hemodynamically
   improved (off pressors for several days) and improved fever curve (now
   Afebrile for > 24 hours).  Hypotension has improved with bolus
   sedation.
   - continue vanco/cefepime/flagyl
   - f/u culture data
   .
   2.   Respiratory failure.  Patient was intubated for tachypnea and
   increased work of breathing.  Two days ago, inability to respond to
   commands made her unable to be extubated.  Also had tachycardia to 160s
   at the end of [**Known lastname **] concerning for panic attack.  Now more responsive
   while getting bolus sedation rather than drips.    Given her
   significant cardiomyopathy, concer that she was have flash pulmonary
   edema when she is extubated when she was diuresed 1.5 liters with lasix
   80 IV x 2.
   - lasix 80 IV prn with goal diuresis of [**1-26**] liters per day
   - serial
   CXR
   - [**Date Range **] today and consider extubation
   .
   3.  Mental status.  Patient has been sedated with fentanyl/versed with
   inability to follow commands at present.  Will assess mental status
   after decreasing her sedation.  Head CT obtained 24 hours after
   admission appeared to be unchanged, though patient has large CVA and a
   VP shunt in place.  Neurosurg feels shunt infection is less likely
   given that it has been in place for several years.  Patient has been
   adequately anticoagulated during ICU stay making embolic or thrombotic
   event less likely than a hemorrhagic event.  Today, has improved mental
   status off sedation.  Nowe moving all extremities.  Will stop propofol
   and switch to prn fentanyl/versed given ongoing hypotension and
   difficulty successfully diuresing with her blood pressure being low.
   - monitor mental status
   - prn fentanyl,versed boluses
   .
   4. Anticoagulation.  Now on agatroban drip for mitral valve replacement
   and a. fib with therapeutic INR.  Now with guaic positive stools and
   stable hematocrit.
   - follow serial coags
   - continue argatroban for anticoagulation and hold off on resuming
   coumadin in case she requires a procedure while in ICU
   - FFP if actively bleeding
   - monitor Hct
   5.   Dilated cardiomyopathy.   Patient reportedly has a non-ischemic
   dilated cardiomyopathy with most recent echo showing an EF of 10%.
   Patient also s/p mitral valve replacement due to rheumatic fever.
   Given low EF, will diurese patient to optimize her for extubation.
   Currently getting positive pressure from vent and there is concern that
   without positive pressure after extubation, she may go into pulmonary
   edema.  Will attempt to diurese with lasix prn.  Will stop propofol
   which is causing hypotension and limiting ability to diurese and use
   prn fentanyl/versed.
   - hold aldactone, coreg for now, but consider resuming in future
   - continue lasix 80 IV x 1 for diuresis
   .
   6.  Rhythm.  Patient still with ectopy on telemetry but decreased from
   prior.  Patient has ICD in place.  Increased tachycardia when sedation
   is lightened.
   - monitor on telemetry
   - replete lytes
   .
   7.  Hypernatremia.  Hypernatremia is improved with D5W and free water
   boluses.  Will d/c d5w and free water boluses.
   - continue free water boluses
   - follow Na
   .
   8.  Hypothyroidism.
   -  levothyroxine  112 4x weekly, 125 3x weekly
   .
   9. Depression.
   - Zoloft
   .
   PPI.
   Therapeutic PTT on argatroban
   Communication: Husband and Daughter
   .
   FULL CODE
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2180-9-29**] 09:00 PM
   Multi Lumen - [**2180-10-1**] 12:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Other, argatroban)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2180-10-06 09:57:00 Physician Attending Progress Note
Chief Complaint: septic shock, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61 yo female who presented with diarrhea, pyelonephritis and septic
   shock.  Now hemodynamics improved but with persistent respiratory
   failure.
   24 Hour Events:
   Yesterday on SBT became tachypneic and uncomfortable appearing, RSBI
   115, so placed back on [**1-1**].
   Diuresed yesterday 1.3 liters net negative.
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Vancomycin - [**2180-10-5**] 08:00 PM
   Cefipime - [**2180-10-5**] 09:00 PM
   Metronidazole - [**2180-10-6**] 04:03 AM
   Infusions:
   Argatroban - 1.5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   aspirin, prevacid, colace, levothyroxine, zoloft, senna, reglan,
   digoxin, neutraphos, fentanyl & versed prn (received each x2 overnight)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-10-6**] 09:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.9
C (98.5
   HR: 85 (68 - 87) bpm
   BP: 100/63(75) {84/49(60) - 111/67(81)} mmHg
   RR: 22 (14 - 30) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 57 Inch
   CVP: 5 (5 - 22)mmHg
   Total In:
                                                                  3,580 mL
                                                                    766 mL
   PO:
   TF:
                                                                    193 mL
                                                                     23 mL
   IVF:
                                                                  3,037 mL
                                                                    292 mL
   Blood products:
   Total out:
                                                                  4,925 mL
                                                                    395 mL
   Urine:
                                                                  4,125 mL
                                                                    395 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,345 mL
                                                                    371 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 417 (336 - 458) mL
   PS : 12 cmH2O
   RR (Spontaneous): 20
   PEEP: 8 cmH2O
   FiO2: 35%
   RSBI: 63
   PIP: 21 cmH2O
   SpO2: 98%
   ABG: pending
   Ve: 5.9 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (Murmur: No(t) Systolic), mechanical S1
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   316 K/uL
   139 mg/dL
   0.8 mg/dL
   22 mEq/L
   5.0 mEq/L
   12 mg/dL
   110 mEq/L
   140 mEq/L
   27.7 %
   11.8 K/uL
        [image002.jpg]
                             [**2180-10-4**]  03:19 AM
                             [**2180-10-4**]  03:24 AM
                             [**2180-10-4**]  09:24 AM
                             [**2180-10-4**]  12:54 PM
                             [**2180-10-4**]  04:27 PM
                             [**2180-10-5**]  05:08 AM
                             [**2180-10-5**]  05:31 AM
                             [**2180-10-5**]  02:51 PM
                             [**2180-10-6**]  02:50 AM
                             [**2180-10-6**]  07:17 AM
   WBC
   10.0
   8.3
   11.8
   Hct
   28.3
   27.9
   24.8
   27.7
   Plt
   [**Telephone/Fax (3) 5326**]
   Cr
   0.8
   0.7
   0.7
   0.6
   0.8
   TCO2
   25
   23
   23
   23
   Glucose
   135
   117
   134
   114
   139
   Other labs: PT / PTT / INR:41.6/59.6/4.6, CK / CKMB /
   Troponin-T:67/5/0.02, ALT / AST:42/31, Alk Phos / T Bili:53/0.8,
   Amylase / Lipase:70/28, Differential-Neuts:90.6 %, Lymph:6.3 %,
   Mono:2.8 %, Eos:0.1 %, Fibrinogen:141 mg/dL, Lactic Acid:1.7 mmol/L,
   Albumin:2.8 g/dL, LDH:263 IU/L, Ca++:9.6 mg/dL, Mg++:2.3 mg/dL, PO4:2.8
   mg/dL
   Imaging: CXR with resolved pleural effusions comapred with yesterday.
   Assessment and Plan
   61 yo female who presented with diarrhea, pyelonephritis and septic
   shock.  Now hemodynamics improved but with persistent respiratory
   failure, likely able to extubate today.
    1. Shock:  Resolved.  Likely from urosepsis.
   - cont vanc/cefepime/flagyl, 10 day course
   - off pressors, afebrile
   2. Respiratory Failure:  Intubated for respiratory distress/tachypnea
   in ED.  Looks comfortable on vent this AM with RSBI 63 this AM.
   - SBT today
   - Diurese 500 cc to 1L negative
   3. Hypernatremia:  Resolved.
   4. Coronary Artery Disease/nonischemic cardiomyopathy:
   - Continue ASA/Statin
   - digoxin
   - hold coreg given hypotension yesterday, restart later today if bp
   improves
   5. Mechanical MVR- Argatroban.  Restart coumadin once stabilized.
   ICU Care
   Nutrition:
   Comments: tube feeds on hold pending extubation
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Arterial Line - [**2180-9-29**] 09:00 PM
   Multi Lumen - [**2180-10-1**] 12:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Other, argatroban)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 min

2180-10-07 06:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Successfully extubated yesterday morning
   - Given 80mg IV lasix
   - Patient tolerating ice chips, trying sips
 INVASIVE VENTILATION - STOP [**2180-10-6**] 11:21 AM
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Cefipime - [**2180-10-6**] 09:00 PM
   Vancomycin - [**2180-10-6**] 09:31 PM
   Metronidazole - [**2180-10-7**] 04:00 AM
   Infusions:
   Argatroban - 1.75 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-10-7**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.4
C (97.5
   HR: 75 (62 - 96) bpm
   BP: 96/51(64) {87/42(55) - 111/63(328)} mmHg
   RR: 24 (14 - 33) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 57 Inch
    CVP: -1 (-4 - 11)mmHg
   Total In:
                                                                  1,773 mL
                                                                    608 mL
   PO:
   TF:
                                                                     23 mL
   IVF:
                                                                  1,300 mL
                                                                    608 mL
   Blood products:
   Total out:
                                                                  3,270 mL
                                                                    180 mL
   Urine:
                                                                  3,270 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,497 mL
                                                                    428 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: Standby
   Vt (Spontaneous): 417 (417 - 417) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 0 cmH2O
   FiO2: 35%
   RSBI: 108
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: 7.49/37/194/24/5
   Ve: 5.9 L/min
   PaO2 / FiO2: 554
   Physical Examination
   HEENT: MMM
   CV: RRR, distant, + SM,
   PULM: clear
   ABD: soft, NT/ND
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   351 K/uL
   9.1 g/dL
   93 mg/dL
   0.5 mg/dL
   24 mEq/L
   4.2 mEq/L
   10 mg/dL
   110 mEq/L
   144 mEq/L
   26.8 %
   11.0 K/uL
        [image002.jpg]
                             [**2180-10-4**]  04:27 PM
                             [**2180-10-5**]  05:08 AM
                             [**2180-10-5**]  05:31 AM
                             [**2180-10-5**]  02:51 PM
                             [**2180-10-6**]  02:50 AM
                             [**2180-10-6**]  07:17 AM
                             [**2180-10-6**]  10:51 AM
                             [**2180-10-6**]  02:08 PM
                             [**2180-10-6**]  03:00 PM
                             [**2180-10-7**]  04:33 AM
   WBC
   8.3
   11.8
   11.4
   11.0
   Hct
   27.9
   24.8
   27.7
   27.1
   26.8
   Plt
   [**Telephone/Fax (3) 5341**]51
   Cr
   0.7
   0.7
   0.6
   0.8
   0.7
   0.5
   TCO2
   23
   24
   29
   Glucose
   117
   134
   114
   139
   101
   93
   Other labs: PT / PTT / INR:41.6/61.4/4.6, CK / CKMB /
   Troponin-T:67/5/0.02, ALT / AST:42/31, Alk Phos / T Bili:53/0.8,
   Amylase / Lipase:70/28, Differential-Neuts:90.6 %, Lymph:6.3 %,
   Mono:2.8 %, Eos:0.1 %, Fibrinogen:141 mg/dL, Lactic Acid:1.7 mmol/L,
   Albumin:2.8 g/dL, LDH:263 IU/L, Ca++:8.2 mg/dL, Mg++:2.4 mg/dL, PO4:4.3
   mg/dL
   Assessment and Plan
   Ms. [**Known lastname 5130**] is a 61 yo female  with dilated cardiomyopathy
   (non-ischemic), s/p MVR for rheumatic heart disease, h/o subdural
   hematoma and VP shunt, admitted with septic shock of unclear etiology
   on day 8 of 10 of vanco/cefepime/flagyl.
   .
   1.  Septic shock.  Patient presented with positive UA, fever, elevated
   WBC, and radiographic evidence of pyelonephritis which initially
   thought to be due to urosepsis.  However, UCx grew only 6000 E. coli.
   Concerning for alternative explanation of sepsis, though no clear
   alternative source.  Being covered for bowel pathogens and c. diff with
   flagyl.  All other cultures have been negative.   Renal ultrasound
   negative for abscess.  Neurosurg feels VP shunt infection is unlikely.
   Also has mechanical mitral valve.Of note, patient has history of dental
   infection with recommendation for extraction of tooth, however, was
   deferred due to patient
s anticoagulation.  Patient is hemodynamically
   improved (off pressors for several days) and improved fever curve (now
   Afebrile for > 24 hours).  Hypotension resolved.
   - continue vanco/cefepime/flagyl for 10 day course
   - f/u culture data
   .
   2.   Respiratory failure.  Patient was intubated for tachypnea and
   increased work of breathing.  Two days ago, inability to respond to
   commands made her unable to be extubated.  Also had tachycardia to 160s
   at the end of SBT concerning for panic attack.  Now more responsive
   while getting bolus sedation rather than drips.    Given her
   significant cardiomyopathy, concer that she was have flash pulmonary
   edema when she is extubated when she was diuresed 1.5 liters with lasix
   80 IV x 2.
   - lasix 80 IV prn with goal diuresis of [**1-26**] liters per day
   - serial
   CXR
   - SBT today and consider extubation
   .
   3.  Mental status.  Patient has been sedated with fentanyl/versed with
   inability to follow commands at present.  Will assess mental status
   after decreasing her sedation.  Head CT obtained 24 hours after
   admission appeared to be unchanged, though patient has large CVA and a
   VP shunt in place.  Neurosurg feels shunt infection is less likely
   given that it has been in place for several years.  Patient has been
   adequately anticoagulated during ICU stay making embolic or thrombotic
   event less likely than a hemorrhagic event.  Today, has improved mental
   status off sedation.  Nowe moving all extremities.  Will stop propofol
   and switch to prn fentanyl/versed given ongoing hypotension and
   difficulty successfully diuresing with her blood pressure being low.
   - monitor mental status
   - prn fentanyl,versed boluses
   .
   4. Anticoagulation.  Now on agatroban drip for mitral valve replacement
   and a. fib with therapeutic INR.  Now with guaic positive stools and
   stable hematocrit.
   - follow serial coags
   - continue argatroban for anticoagulation and hold off on resuming
   coumadin in case she requires a procedure while in ICU
   - FFP if actively bleeding
   - monitor Hct
   5.   Dilated cardiomyopathy.   Patient reportedly has a non-ischemic
   dilated cardiomyopathy with most recent echo showing an EF of 10%.
   Patient also s/p mitral valve replacement due to rheumatic fever.
   Given low EF, will diurese patient to optimize her for extubation.
   Currently getting positive pressure from vent and there is concern that
   without positive pressure after extubation, she may go into pulmonary
   edema.  Will attempt to diurese with lasix prn.  Will stop propofol
   which is causing hypotension and limiting ability to diurese and use
   prn fentanyl/versed.
   - hold aldactone, coreg for now, but consider resuming in future
   - continue lasix 80 IV x 1 for diuresis
   .
   6.  Rhythm.  Patient still with ectopy on telemetry but decreased from
   prior.  Patient has ICD in place.  Increased tachycardia when sedation
   is lightened.
   - monitor on telemetry
   - replete lytes
   .
   7.  Hypernatremia.  Hypernatremia is improved with D5W and free water
   boluses.  Will d/c d5w and free water boluses.
   - continue free water boluses
   - follow Na
   .
   8.  Hypothyroidism.
   -  levothyroxine  112 4x weekly, 125 3x weekly
   .
   9. Depression.
   - Zoloft
   .
   PPI.
   Therapeutic PTT on argatroban
   Communication: Husband and Daughter
   .
   FULL CODE
   ICU Care
   Nutrition:
   Sips
   Glycemic Control:  HISS
   Lines:
   Arterial Line - [**2180-9-29**] 09:00 PM
   Multi Lumen - [**2180-10-1**] 12:00 PM
   Prophylaxis:
   DVT:  argatroban
   Stress ulcer:  PPI
   VAP:   NA
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2180-10-07 11:25:00 Physician Attending Progress Note
Chief Complaint: sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2180-10-6**] 11:21 AM
   Extubated, tolerated ice chips.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Cefipime - [**2180-10-6**] 09:00 PM
   Vancomycin - [**2180-10-6**] 09:31 PM
   Metronidazole - [**2180-10-7**] 04:00 AM
   Infusions:
   Argatroban - 2 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2180-10-7**] 08:08 AM
   Other medications:
   asa, Zoloft, Levothyroxine,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Eyes: No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Respiratory: Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea
   Genitourinary: Foley
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, History of thyroid disease
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2180-10-7**] 11:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 35.6
C (96.1
   HR: 75 (62 - 85) bpm
   BP: 112/66(80) {87/42(55) - 113/88(328)} mmHg
   RR: 27 (17 - 33) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 57 Inch
   CVP: 14 (-4 - 14)mmHg
   Total In:
                                                                  1,775 mL
                                                                  1,480 mL
   PO:
                                                                    300 mL
   TF:
                                                                     23 mL
   IVF:
                                                                  1,302 mL
                                                                  1,180 mL
   Blood products:
   Total out:
                                                                  3,270 mL
                                                                    345 mL
   Urine:
                                                                  3,270 mL
                                                                    345 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,495 mL
                                                                  1,135 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   FiO2: 35%
   RSBI: 108
   SpO2: 92%
   ABG: 7.49/37/194/24/5
   PaO2 / FiO2: 554
   Physical Examination
   General Appearance: Well nourished, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: R base, Rhonchorous: diffusely)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, No(t) Oriented (to): , Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   9.1 g/dL
   351 K/uL
   93 mg/dL
   0.5 mg/dL
   24 mEq/L
   4.2 mEq/L
   10 mg/dL
   110 mEq/L
   144 mEq/L
   26.8 %
   11.0 K/uL
        [image002.jpg]
                             [**2180-10-4**]  04:27 PM
                             [**2180-10-5**]  05:08 AM
                             [**2180-10-5**]  05:31 AM
                             [**2180-10-5**]  02:51 PM
                             [**2180-10-6**]  02:50 AM
                             [**2180-10-6**]  07:17 AM
                             [**2180-10-6**]  10:51 AM
                             [**2180-10-6**]  02:08 PM
                             [**2180-10-6**]  03:00 PM
                             [**2180-10-7**]  04:33 AM
   WBC
   8.3
   11.8
   11.4
   11.0
   Hct
   27.9
   24.8
   27.7
   27.1
   26.8
   Plt
   [**Telephone/Fax (3) 5341**]51
   Cr
   0.7
   0.7
   0.6
   0.8
   0.7
   0.5
   TCO2
   23
   24
   29
   Glucose
   117
   134
   114
   139
   101
   93
   Other labs: PT / PTT / INR:41.6/61.4/4.6, CK / CKMB /
   Troponin-T:67/5/0.02, ALT / AST:42/31, Alk Phos / T Bili:53/0.8,
   Amylase / Lipase:70/28, Differential-Neuts:90.6 %, Lymph:6.3 %,
   Mono:2.8 %, Eos:0.1 %, Fibrinogen:141 mg/dL, Lactic Acid:1.7 mmol/L,
   Albumin:2.8 g/dL, LDH:263 IU/L, Ca++:8.2 mg/dL, Mg++:2.4 mg/dL, PO4:4.3
   mg/dL
   CXR: huge heart as before, equivocal infiltrate/effusion in LLL and RLL
   Assessment and Plan
   1)ID- Sepsis of unclear etiology, ?urosepsis. complete empiric 10 day
   course Vanc/Cefepime/Flagyl.
   2)Pulm- extubated, looks well. Rhonchorous- needs chest PT, IS, OOB.
   3)Heme- h/o HIT and MVR, cont Argatroban gtt. Start coumadin.
   4)CV- h/o dilated nonischemic [**Last Name (LF) 5346**], [**First Name3 (LF) 300**]<10%. Restart Coreg, Lasix, plan
   to add back Aldactone tomorrow.
   5) Abnl CXR
 can
t totally exclude pneumonia, but on good abx for it
   (Vanc, Zosyn)
   6)FEN- po diet
   ICU Care
   Nutrition:
   Comments: advance po diet today
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2180-9-29**] 09:00 PM
   Multi Lumen - [**2180-10-1**] 12:00 PM
   Comments: d/c a-line/CVL later today if remains stable.
   Prophylaxis:
   DVT: (Systemic anticoagulation: Other, Argatroban)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU, floor possibly this evening
   Total time spent: 30 minutes

2180-10-08 07:42:00 Physician Resident Progress Note
Chief Complaint: urosepsis
   24 Hour Events:
   Got diuresed with lasix.
 ARTERIAL LINE - STOP [**2180-10-8**] 12:01 AM
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Last dose of Antibiotics:
   Cefipime - [**2180-10-6**] 09:00 PM
   Vancomycin - [**2180-10-7**] 08:27 PM
   Metronidazole - [**2180-10-8**] 04:21 AM
   Infusions:
   Argatroban - 2.25 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2180-10-7**] 08:08 AM
   Furosemide (Lasix) - [**2180-10-7**] 10:22 PM
   Other medications:
   Carvedilol 6.25 PO BID
   Coumadin 2.5 mg daily
   Flagyl 500 mg IV 1 8 hours (day 1 [**9-30**])
   Vanco (day 1 [**9-30**])
   Cefepime (day 1 [**9-29**])
   Reglan 10 mg IV q6 hours
   Digoxin 0.125 qod
   Insulin Sliding Scale
   Lactulose PRN
   Colace [**Hospital1 **]
   Levothyroxine
   Sertraline
   Lansoprazole
   Tylenol
   Aspirin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2180-10-8**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.2
C (97.2
   HR: 69 (64 - 88) bpm
   BP: 89/45(56) {87/39(52) - 110/68(73)} mmHg
   RR: 22 (19 - 29) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 57 Inch
    CVP: 8 (4 - 17)mmHg
   Total In:
                                                                  3,632 mL
                                                                    316 mL
   PO:
                                                                  1,070 mL
   TF:
   IVF:
                                                                  2,562 mL
                                                                    316 mL
   Blood products:
   Total out:
                                                                  2,660 mL
                                                                  1,150 mL
   Urine:
                                                                  2,660 mL
                                                                  1,150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    972 mL
                                                                   -834 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   337 K/uL
   8.2 g/dL
   98 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.1 mEq/L
   10 mg/dL
   106 mEq/L
   142 mEq/L
   24.5 %
   9.7 K/uL
        [image002.jpg]
                             [**2180-10-5**]  05:08 AM
                             [**2180-10-5**]  05:31 AM
                             [**2180-10-5**]  02:51 PM
                             [**2180-10-6**]  02:50 AM
                             [**2180-10-6**]  07:17 AM
                             [**2180-10-6**]  10:51 AM
                             [**2180-10-6**]  02:08 PM
                             [**2180-10-6**]  03:00 PM
                             [**2180-10-7**]  04:33 AM
                             [**2180-10-8**]  04:00 AM
   WBC
   8.3
   11.8
   11.4
   11.0
   9.7
   Hct
   24.8
   27.7
   27.1
   26.8
   24.5
   Plt
   [**Telephone/Fax (3) 5341**]51
   337
   Cr
   0.7
   0.7
   0.6
   0.8
   0.7
   0.5
   0.6
   TCO2
   23
   24
   29
   Glucose
   117
   134
   114
   139
   101
   93
   98
   Other labs: PT / PTT / INR:47.2/68.6/5.3, CK / CKMB /
   Troponin-T:67/5/0.02, ALT / AST:42/31, Alk Phos / T Bili:53/0.8,
   Amylase / Lipase:70/28, Differential-Neuts:90.6 %, Lymph:6.3 %,
   Mono:2.8 %, Eos:0.1 %, Fibrinogen:141 mg/dL, Lactic Acid:1.7 mmol/L,
   Albumin:2.8 g/dL, LDH:263 IU/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.1
   mg/dL
   Micro: no new micro data
   CXR. [**2180-10-7**].
   IMPRESSION:
   Interval worsening with development of bilateral pleural effusions and
   bibasilar consolidation.
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2180-10-1**] 12:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Other, argatroban)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU